### PR TITLE
Add semi-modules, semi-algebras, and semilinear functions

### LINKED ISSUE #1124: Semi-modules and semi-algebras
I found that many results in `monalg.v` of multinomials can be generalized to `nmodType` and `semiRingType`. However, module and algebra structures where scalars are a semiring (e.g., polynomials where coefficients are a semiring) are currently lacking in MathComp.

I guess what I need is the "semi" counterpart of `lmodType`, `lalgType`, `algType`, and potentially some generalizations of morphism structures. I wonder how they should be called (`semiLmodType` ? `lSemiModType` ?).

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Closes #1124

##### Dependencies (Edit by Cyril)
- https://github.com/coq/coq/pull/19611

##### Overlay PRs

- ~math-comp/analysis#1271~ (We no longer need it.)

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- ~[ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Review by proux01 — APPROVED** [review]
I wonder what's the impact on compilation time, @pi8027 did you notice anything?

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -2170,10 +2263,11 @@ HB.instance Definition _ := isMultiplicative.Build R A (in_alg_loc A)
 
 Lemma in_algE a : in_alg_loc A a = a%:A. Proof. by []. Qed.
 
-End InAlgebra.
+End InSemiAlgebra.
 
 End RmorphismTheory.
 
+(* TODO: generalize to semirings and semi-modules? *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2270]: To be clear, this PR is not really done. I still have to think about what to do with this part.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2270]: I could not figure out what to do here by myself.

@amahboubi @hivert This is where I have the issue (with `Scale.law`) we briefly discussed offline.

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -1605,16 +1605,29 @@ Proof. exact: (@lregN R^c). Qed.
...
   scale : R -> V -> V;
   scalerA : forall a b v, scale a (scale b v) = scale (a * b) v;
+  scale0r : forall v, scale 0 v = 0;
   scale1r : left_id 1 scale;
   scalerDr : right_distributive scale +%R;
   scalerDl : forall v, {morph scale^~ v: a b / a + b}
 }.
+#[short(type="lSemiModType")]
+HB.structure Definition LSemiModule (R : semiRingType) :=
+  {M of Nmodule M & Nmodule_isLSemiModule R M}.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:1618]: I believe this still is a `lmodType` and that the structure of `Zmodule` on `Nmodule` (i.e. the `opp` and its laws) can be reconstructed from a factory as follows: `opp x := scale (- 1) x`

File: mathcomp/algebra/ssralg.v [hunk 3]
```diff
@@ -1630,47 +1643,38 @@ Notation "[ 'lmodType' R 'of' T ]" := (Lmodule.clone R T%type _)
...
-
-Variables (R : ringType) (V : lmodType R).
-Implicit Types (a b c : R) (u v : V).
+HB.factory Record Zmodule_isLmodule (R : ringType) V of Zmodule V := {
+  scale : R -> V -> V;
+  scalerA : forall a b v, scale a (scale b v) = scale (a * b) v;
+  scale1r : left_id 1 scale;
+  scalerDr : right_distributive scale +%R;
+  scalerDl : forall v, {morph scale^~ v: a b / a + b}
+}.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:1652]: There might be a additional weakening of this factory to:
```coq
HB.factory Record Zmodule_isLmodule (R : ringType) V of Nmodule V := { (* same contents *) }.
```
where the builders additionally reconstruct `opp x := scale (- 1) x`.

File: mathcomp/algebra/ssralg.v [hunk 4]
```diff
@@ -4611,10 +4754,18 @@ HB.structure Definition DivClosed (R : unitRingType) :=
 HB.structure Definition SdivClosed (R : unitRingType) :=
   {S of SmulClosed R S & isInvClosed R S}.
 
+#[short(type="semimodClosed")]
+HB.structure Definition SemimodClosed (R : semiRingType) (V : lSemiModType R) :=
+  {S of AddClosed V S & isScaleClosed R V S}.
+
 #[short(type="submodClosed")]
 HB.structure Definition SubmodClosed (R : ringType) (V : lmodType R) :=
   {S of ZmodClosed V S & isScaleClosed R V S}.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:4763]: Those two might be equivalent, aren't they?

File: mathcomp/algebra/ssralg.v (hunk 3 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:1652]: Actually, that was not the right construction, this is:
```coq
HB.factory Record LSemiModule_isLmodule (R : ringType) V
  of LSemiModule R V := {}.

HB.builders Context R V of LSemiModule_isLmodule R V.

Definition opp : V -> V := scale (- 1).

Lemma addNr : left_inverse 0 opp +%R.
Proof.
move=> v; suff : scale (-1 + 1) v = 0 by  rewrite scalerDl scale1r.
by rewrite addNr scale0r.
Qed.

HB.instance Definition _ := Nmodule_isZmodule.Build V addNr.

HB.end.
```


Hence, `lmodType R` and `lSemiModType R` are indeed equivalent when `R : ringType`. However they should not be identified in HB, because of this relevant `opp` that is not always definitionally equal to `opp`.

The funny thing, then, is that all theorems on `lmodType R` (for `R : ringType`) that do not mention `opp` in the statement are true for `lSemiModType R`...

File: mathcomp/algebra/ssralg.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2270]: Cyril suggested splitting `Scale.isLaw` into two pieces. For semirings, `op 1 =1 id` would suffice.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2270]: Also this paper might be related: https://doi.org/10.4230/LIPIcs.ITP.2022.10

File: mathcomp/algebra/ssralg.v (hunk 4 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Yes, it also applies to some structures below. Fixed.

File: mathcomp/algebra/ssralg.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:1652]: Done.

> The funny thing, then, is that all theorems on `lmodType R` (for `R : ringType`) that do not mention `opp` in the statement are true for `lSemiModType R`...

Yes, a theorem on `(R : ringType) (V : lmodType R)` that does not mention `@opp V` should hold for any `(R : ringType) (V : lSemiModType R)`. I expect that it also *likely* holds for any `(R : semiRingType) (V : lSemiModType R)` if it does not mention `@opp R` too.

File: mathcomp/algebra/ssralg.v [hunk 5]
```diff
@@ -2250,6 +2394,7 @@ Proof.
 by move=> Lsf a v; rewrite -[a *:v](addrK v) (additive_linear Lsf) Lsf addrK.
 Qed.
 
+(* TODO: generalize the following factory to semi-modules if possible ? *)
 HB.factory Record isLinear (R : ringType) (U : lmodType R) (V : zmodType)
     (s : Scale.law R V) (f : U -> V) := {
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2399]: I could not find a way to generalize this factory from `Scale.law` to `SemiScale.law`. Therefore, I had to duplicate the old `Scale.law` to the new `SemiScale.law` and `Scale.law`. I should probably adapt `linear_for` to semi-modules. Any suggestion?

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2399]: I'm stuck.

File: mathcomp/algebra/ssralg.v [hunk 6]
```diff
@@ -2266,68 +2266,103 @@ End InSemiAlgebra.
 
 End RmorphismTheory.
 
-(* TODO: generalize to semirings and semi-modules? *)
-Module Scale.
+Module SemiScale.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:2286]: I think this should all be in the same module `Scale`, with mixins `isSemiLaw` and `SemiLaw_isLaw`  and factory `isLaw`. This way we preserve backward compatibility.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2286]: I don't see how `isLaw` would imply `isSemiLaw` because `op` is not necessarily associative (like `scalerA`).

File: mathcomp/algebra/ssralg.v [hunk 7]
```diff
@@ -2171,71 +2279,124 @@ HB.instance Definition _ := isMultiplicative.Build R A (in_alg_loc A)
...
+  op_additive : forall a, additive (op a);
+}.
 
-Variables (R : ringType) (V : zmodType) (s_law : law R V).
+HB.builders Context R V op of isLaw R V op.
 
-Lemma N1op : s_law (-1) =1 -%R. Proof. exact: N1op_subproof. Qed.
-Fact opB a : additive (s_law a). Proof. exact: op_additive_subproof. Qed.
+Fact op1v : op 1 =1 id.
+Proof. Admitted.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2316]: @CohenCyril Regarding the `Scale.isLaw` factory, I'm stuck here.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2316]: My impression is that the current `Scale.isLaw` is not strong enough to imply a reasonable intermediate mixin `Scale.isSemiLaw`. If so, we cannot preserve backward compatibility.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Fixed by assuming the associativity of `op`, as we discussed this week.

File: mathcomp/algebra/ssralg.v [hunk 8]
```diff
@@ -2171,71 +2279,125 @@ HB.instance Definition _ := isMultiplicative.Build R A (in_alg_loc A)
...
+HB.structure Definition Linear
+  (R : semiRingType) (U : lSemiModType R) (V : nmodType) (s : R -> V -> V) :=
   {f of @Additive U V f & isScalable R U V s f}.
 
-Definition linear_for (R : ringType) (U : lmodType R) (V : zmodType)
+(* TODO: Generalize the following definitions and lemmas (also scalable_for   *)
+(* above?) to semi-modules properly, if possible.                             *)
+Definition linear_for (R : semiRingType) (U : lSemiModType R) (V : nmodType)
     (s : R -> V -> V) (f : U -> V) :=
   forall a, {morph f : u v / a *: u + v >-> s a u + v}.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2402]: I have the impression that this `linear_for` is not the right definition for semi-modules because I could not generalize `additive_linear` below to semi-modules. @CohenCyril

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2402]: (This is actually the same issue as https://github.com/math-comp/math-comp/pull/1125#discussion_r1404329658)

File: mathcomp/algebra/ssralg.v [hunk 9]
```diff
@@ -2252,55 +2252,48 @@ Module Scale.
 
 HB.mixin Record isSemiLaw
     (R : semiRingType) (V : nmodType) (op : R -> V -> V) := {
+  op0v : forall v, op 0 v = 0;
+  opx0 : forall x, op x 0 = 0;
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:2256]: This should already be included in semi-additive, isn't it?

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2256]: Right.

Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v]: (just the second one, I mis-selected the first)

File: mathcomp/algebra/ssralg.v [hunk 10]
```diff
@@ -2136,156 +2244,222 @@ HB.instance Definition _ := isMultiplicative.Build R A (in_alg_loc A)
...
 Definition wrap (f : map_class) := Wrap f.
 End Linear.
 End Linear.
+(*
 Notation "{ 'linear' U -> V | s }" := (@Linear.type _ U%type V%type s)
   : type_scope.
 Notation "{ 'linear' U -> V }" := {linear U%type -> V%type | *:%R}
   : type_scope.
 Notation "{ 'scalar' U }" := {linear U -> _ | *%R}
   (at level 0, format "{ 'scalar'  U }") : type_scope.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2413]: @CohenCyril How would you redefine these notations? Now, the base (semi)rings of `U` and `V` are respectively `R` and `S`, and there is a homomorphism `f` from `R` to `S`.

File: mathcomp/algebra/matrix.v [hunk 11]
```diff
@@ -3111,11 +3111,10 @@ Proof. by rewrite scale_col_mx !scale_row_mx. Qed.
...
 Lemma diag_mx_is_linear n : linear (@diag_mx R n).
-Proof.
-by move=> a A B; apply/matrixP=> i j; rewrite !mxE mulrnAr mulrnDl.
-Qed.
-HB.instance Definition _ n := GRing.isLinear.Build R 'rV_n 'M_n _ (@diag_mx _ n)
-  (@diag_mx_is_linear n).
+Proof. by move=> a A B; apply/matrixP=> i j; rewrite !mxE mulrnAr mulrnDl. Qed.
+HB.instance Definition _ n :=
+  GRing.isSemilinear.Build R R idfun 'rV_n 'M_n _ (@diag_mx _ n)
+    (GRing.semilinear_linear (@diag_mx_is_linear n)).
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:3117]: Here, I cannot use `GRing.isLinear` as a factory. It says:
```
Error:
The conclusion of a builder is a mixin whose parameters depend on other mixins: extract-conclusion-params c4 
 (prod `fresh_name_208` 
...
```

Comment (pi8027) [reply mathcomp/algebra/matrix.v:3117]: I have the same issue with `GRing.isSemiScalable` and `GRing.isScalable`.

Comment (pi8027) [reply mathcomp/algebra/matrix.v]: @CohenCyril I think I need your help here.

**Comment by pi8027** [comment]
This PR currently introduces some non-uniform inheritance in the coercion graph. I think the following definitions have to be specialized back to `lmodType` and `lalgType` because the definition of `linear_closed` does not seem to make much sense when there is no additive inverse.
```coq
GRing.linear_closed =
fun (R : semiRingType) (V : lSemiModType R) (S : {pred V}) => forall a : R, {in S &, forall u v : V, a *: u + v \in S}
     : forall (R : semiRingType) (V : lSemiModType R), {pred V} -> Prop

GRing.submod_closed =
fun (R : semiRingType) (V : lSemiModType R) (S : {pred V}) => 0 \in S /\ linear_closed S
     : forall (R : semiRingType) (V : lSemiModType R), {pred V} -> Prop

GRing.subalg_closed =
fun (R : semiRingType) (A : lSemiAlgType R) (S : {pred A}) => [/\ 1 \in S, linear_closed S & mulr_2closed S]
     : forall (R : semiRingType) (A : lSemiAlgType R), {pred A} -> Prop
```

File: mathcomp/algebra/matrix.v (hunk 11 above)
Comment (pi8027) [reply mathcomp/algebra/matrix.v]: Fixed by math-comp/hierarchy-builder#433.

File: mathcomp/algebra/vector.v [hunk 12]
```diff
@@ -119,8 +119,10 @@ Delimit Scope vspace_scope with VS.
 Import GRing.Theory.
 
 (* Finite dimension vector space *)
-Definition vector_axiom_def (R : ringType) n (V : lmodType R) :=
-  {v2r : V -> 'rV[R]_n | linear v2r & bijective v2r}.
+Record vector_axiom_def (R : ringType) n (V : lmodType R) := VectorAxiom {
+  v2r_def : V -> 'rV[R]_n;
+  _ : semilinear v2r_def;
+  _ : bijective v2r_def }.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/vector.v:125]: This change breaks multinomials. It seems to me that we should provide both definitions of `vector_axiom` and turn the old one into a factory.

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/vector.v]: In the end, I just reverted this change.

**Comment by pi8027** [comment]
Now, we only have to fix analysis, abel, and a few issues left in the PR.

**Comment by pi8027** [comment]
I think I need help in fixing analysis.

**Comment by pi8027** [comment]
It seems that `rewrite` by `linearZ`, `linearB`, `linear0`, etc. are sometimes too slow now. I will check if this is the case in the master branch (and open another cherry-pick PR if so).

**Comment by pi8027** [comment]
Bench (b174dacb..2e8c0a63):
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
33m51.69s | 1835556 ko | Total Time / Peak Mem            | 29m23.92s | 1827552 ko || +4m27.77s ||      8004 ko |  +15.18% |         +0.43%
-------------------------------------------------------------------------------------------------------------------------------------------
 2m04.73s | 1139628 ko | algebra/vector.vo                |  0m17.26s |  887364 ko || +1m47.47s ||    252264 ko | +622.65% |        +28.42%
 1m22.53s | 1189624 ko | character/mxrepresentation.vo    |  0m47.00s | 1070664 ko || +0m35.53s ||    118960 ko |  +75.59% |        +11.11%
 2m04.61s | 1439892 ko | algebra/ssralg.vo                |  1m40.50s | 1331428 ko || +0m24.11s ||    108464 ko |  +23.99% |         +8.14%
 1m25.08s | 1418256 ko | algebra/matrix.vo                |  1m06.88s | 1376724 ko || +0m18.20s ||     41532 ko |  +27.21% |         +3.01%
 0m44.15s | 1094560 ko | character/character.vo           |  0m33.98s | 1081728 ko || +0m10.17s ||     12832 ko |  +29.92% |         +1.18%
 0m28.64s |  878588 ko | algebra/mxalgebra.vo             |  0m19.45s |  848660 ko || +0m09.19s ||     29928 ko |  +47.24% |         +3.52%
 0m20.89s |  819796 ko | field/separable.vo               |  0m14.44s |  769604 ko || +0m06.45s ||     50192 ko |  +44.66% |         +6.52%
 0m42.61s | 1044048 ko | field/galois.vo                  |  0m37.44s |  978328 ko || +0m05.17s ||     65720 ko |  +13.80% |         +6.71%
 1m24.18s | 1279048 ko | algebra/ssrnum.vo                |  1m19.78s | 1270688 ko || +0m04.40s ||      8360 ko |   +5.51% |         +0.65%
 0m48.19s |  989536 ko | algebra/finalg.vo                |  0m43.45s |  932480 ko || +0m04.74s ||     57056 ko |  +10.90% |         +6.11%
 0m39.35s | 1181140 ko | field/finfield.vo                |  0m35.25s | 1135800 ko || +0m04.10s ||     45340 ko |  +11.63% |         +3.99%
 0m34.50s | 1132336 ko | field/fieldext.vo                |  0m29.97s | 1061340 ko || +0m04.53s ||     70996 ko |  +15.11% |         +6.68%
 0m46.41s | 1422716 ko | field/algebraics_fundamentals.vo |  0m43.00s | 1516624 ko || +0m03.41s ||    -93908 ko |   +7.93% |         -6.19%
 0m42.86s | 1311792 ko | algebra/archimedean.vo           |  0m40.34s | 1192436 ko || +0m02.52s ||    119356 ko |   +6.24% |        +10.00%
 0m18.70s |  899016 ko | field/falgebra.vo                |  0m16.64s |  889860 ko || +0m02.06s ||      9156 ko |  +12.37% |         +1.02%
 0m17.15s |  867892 ko | algebra/qpoly.vo                 |  0m15.08s |  837412 ko || +0m02.07s ||     30480 ko |  +13.72% |         +3.63%
 0m37.24s | 1211464 ko | character/classfun.vo            |  0m35.42s | 1202472 ko || +0m01.82s ||      8992 ko |   +5.13% |         +0.74%
 0m34.35s | 1293988 ko | field/algC.vo                    |  0m32.82s | 1237728 ko || +0m01.53s ||     56260 ko |   +4.66% |         +4.54%
 0m22.70s |  828972 ko | algebra/poly.vo                  |  0m20.85s |  799096 ko || +0m01.85s ||     29876 ko |   +8.87% |         +3.73%
 0m19.08s |  936392 ko | field/algnum.vo                  |  0m17.80s |  908060 ko || +0m01.28s ||     28332 ko |   +7.19% |         +3.12%
 0m18.42s |  717468 ko | algebra/countalg.vo              |  0m17.06s |  693440 ko || +0m01.36s ||     24028 ko |   +7.97% |         +3.46%
 0m16.85s |  909960 ko | field/qfpoly.vo                  |  0m15.63s |  889248 ko || +0m01.22s ||     20712 ko |   +7.80% |         +2.32%
 0m15.64s |  657804 ko | algebra/polydiv.vo               |  0m14.49s |  647836 ko || +0m01.15s ||      9968 ko |   +7.93% |         +1.53%
 0m14.37s |  804516 ko | character/mxabelem.vo            |  0m13.20s |  770032 ko || +0m01.17s ||     34484 ko |   +8.86% |         +4.47%
 0m13.07s |  718720 ko | algebra/ring_quotient.vo         |  0m11.97s |  687792 ko || +0m01.10s ||     30928 ko |   +9.18% |         +4.49%
 7m00.59s | 1835556 ko | ssreflect/order.vo               |  7m00.34s | 1827552 ko || +0m00.25s ||      8004 ko |   +0.05% |         +0.43%
 0m41.34s |  940988 ko | solvable/extremal.vo             |  0m41.29s |  921092 ko || +0m00.05s ||     19896 ko |   +0.12% |         +2.16%
 0m27.73s |  857960 ko | solvable/extraspecial.vo         |  0m27.13s |  847444 ko || +0m00.60s ||     10516 ko |   +2.21% |         +1.24%
 0m25.84s |  864852 ko | algebra/mxpoly.vo                |  0m24.95s |  839348 ko || +0m00.89s ||     25504 ko |   +3.56% |         +3.03%
 0m23.54s | 1052360 ko | algebra/interval.vo              |  0m22.76s |  996544 ko || +0m00.78s ||     55816 ko |   +3.42% |         +5.60%
 0m22.38s |  939984 ko | character/inertia.vo             |  0m21.84s |  932128 ko || +0m00.54s ||      7856 ko |   +2.47% |         +0.84%
 0m20.31s |  950644 ko | field/closed_field.vo            |  0m19.60s |  949664 ko || +0m00.71s ||       980 ko |   +3.62% |         +0.10%
 0m19.40s |  703528 ko | solvable/burnside_app.vo         |  0m19.37s |  694032 ko || +0m00.03s ||      9496 ko |   +0.15% |         +1.36%
 0m18.13s |  966456 ko | character/integral_char.vo       |  0m17.73s |  937520 ko || +0m00.40s ||     28936 ko |   +2.25% |         +3.08%
 0m18.08s |  899128 ko | algebra/rat.vo                   |  0m17.49s |  875520 ko || +0m00.59s ||     23608 ko |   +3.37% |         +2.69%
 0m18.07s |  949848 ko | character/vcharacter.vo          |  0m17.35s |  930680 ko || +0m00.72s ||     19168 ko |   +4.14% |         +2.05%
 0m15.59s |  880272 ko | algebra/ssrint.vo                |  0m14.95s |  875652 ko || +0m00.64s ||      4620 ko |   +4.28% |         +0.52%
 0m15.24s |  619008 ko | fingroup/gproduct.vo             |  0m15.30s |  618576 ko || -0m00.06s ||       432 ko |   -0.39% |         +0.06%
 0m14.98s |  655504 ko | solvable/hall.vo                 |  0m14.79s |  650600 ko || +0m00.19s ||      4904 ko |   +1.28% |         +0.75%
 0m14.68s |  675460 ko | solvable/maximal.vo              |  0m14.41s |  668796 ko || +0m00.27s ||      6664 ko |   +1.87% |         +0.99%
 0m12.98s |  673604 ko | solvable/abelian.vo              |  0m12.85s |  664492 ko || +0m00.13s ||      9112 ko |   +1.01% |         +1.37%
 0m12.54s |  841360 ko | algebra/intdiv.vo                |  0m12.21s |  826244 ko || +0m00.33s ||     15116 ko |   +2.70% |         +1.82%
 0m10.58s |  580304 ko | fingroup/action.vo               |  0m10.70s |  587824 ko || -0m00.12s ||     -7520 ko |   -1.12% |         -1.27%
 0m08.63s |  596080 ko | fingroup/fingroup.vo             |  0m08.57s |  595612 ko || +0m00.06s ||       468 ko |   +0.70% |         +0.07%
 0m08.53s |  649612 ko | solvable/finmodule.vo            |  0m08.01s |  633736 ko || +0m00.52s ||     15876 ko |   +6.49% |         +2.50%
 0m08.04s |  625660 ko | solvable/alt.vo                  |  0m07.83s |  616180 ko || +0m00.21s ||      9480 ko |   +2.68% |         +1.53%
 0m07.70s |  622276 ko | solvable/center.vo               |  0m07.58s |  617664 ko || +0m00.12s ||      4612 ko |   +1.58% |         +0.74%
 0m07.63s |  571300 ko | ssreflect/seq.vo                 |  0m07.60s |  571088 ko || +0m00.03s ||       212 ko |   +0.39% |         +0.03%
 0m07.27s |  583096 ko | ssreflect/bigop.vo               |  0m07.28s |  582520 ko || -0m00.01s ||       576 ko |   -0.13% |         +0.09%
 0m07.15s |  728836 ko | algebra/polyXY.vo                |  0m06.78s |  717848 ko || +0m00.37s ||     10988 ko |   +5.45% |         +1.53%
 0m06.99s |  559648 ko | ssreflect/finset.vo              |  0m06.94s |  560380 ko || +0m00.05s ||      -732 ko |   +0.72% |         -0.13%
 0m06.97s |  885584 ko | all/all.vo                       |  0m06.59s |  856196 ko || +0m00.38s ||     29388 ko |   +5.76% |         +3.43%
 0m06.89s |  643940 ko | algebra/zmodp.vo                 |  0m06.38s |  632572 ko || +0m00.51s ||     11368 ko |   +7.99% |         +1.79%
 0m06.60s |  534768 ko | fingroup/morphism.vo             |  0m06.59s |  534204 ko || +0m00.01s ||       564 ko |   +0.15% |         +0.10%
 0m06.48s |  621244 ko | solvable/cyclic.vo               |  0m06.35s |  614340 ko || +0m00.13s ||      6904 ko |   +2.04% |         +1.12%
 0m06.26s |  616700 ko | solvable/pgroup.vo               |  0m06.18s |  613416 ko || +0m00.08s ||      3284 ko |   +1.29% |         +0.53%
 0m06.25s |  608760 ko | solvable/jordanholder.vo         |  0m06.18s |  601436 ko || +0m00.07s ||      7324 ko |   +1.13% |         +1.21%
 0m06.22s |  797528 ko | field/cyclotomic.vo              |  0m06.01s |  784484 ko || +0m00.21s ||     13044 ko |   +3.49% |         +1.66%
 0m06.04s |  616524 ko | solvable/frobenius.vo            |  0m05.99s |  613512 ko || +0m00.05s ||      3012 ko |   +0.83% |         +0.49%
 0m05.84s |  610976 ko | algebra/fraction.vo              |  0m05.47s |  607380 ko || +0m00.37s ||      3596 ko |   +6.76% |         +0.59%
 0m05.78s |  564344 ko | ssreflect/fintype.vo             |  0m05.85s |  564080 ko || -0m00.07s ||       264 ko |   -1.19% |         +0.04%
 0m05.27s |  530568 ko | fingroup/quotient.vo             |  0m05.22s |  530824 ko || +0m00.05s ||      -256 ko |   +0.95% |         -0.04%
 0m04.83s |  607552 ko | solvable/gseries.vo              |  0m04.73s |  598660 ko || +0m00.10s ||      8892 ko |   +2.11% |         +1.48%
 0m04.64s |  608124 ko | solvable/sylow.vo                |  0m04.56s |  602788 ko || +0m00.08s ||      5336 ko |   +1.75% |         +0.88%
 0m04.31s |  522684 ko | ssreflect/prime.vo               |  0m04.33s |  522436 ko || -0m00.02s ||       248 ko |   -0.46% |         +0.04%
 0m04.22s |  605992 ko | solvable/nilpotent.vo            |  0m04.12s |  600856 ko || +0m00.10s ||      5136 ko |   +2.42% |         +0.85%
 0m03.90s |  766052 ko | algebra/all_algebra.vo           |  0m03.64s |  757156 ko || +0m00.26s ||      8896 ko |   +7.14% |         +1.17%
 0m03.46s |  517500 ko | ssreflect/choice.vo              |  0m03.46s |  517200 ko || +0m00.00s ||       300 ko |   +0.00% |         +0.05%
 0m03.34s |  500396 ko | ssreflect/path.vo                |  0m03.33s |  500156 ko || +0m00.01s ||       240 ko |   +0.30% |         +0.04%
 0m03.27s |  595112 ko | ssreflect/all_ssreflect.vo       |  0m03.31s |  594888 ko || -0m00.04s ||       224 ko |   -1.20% |         +0.03%
 0m03.21s |  532220 ko | fingroup/perm.vo                 |  0m03.19s |  531804 ko || +0m00.02s ||       416 ko |   +0.62% |         +0.07%
 0m03.11s |  517860 ko | fingroup/automorphism.vo         |  0m03.16s |  517404 ko || -0m00.05s ||       456 ko |   -1.58% |         +0.08%
 0m02.81s |  818396 ko | character/all_character.vo       |  0m02.65s |  806080 ko || +0m00.16s ||     12316 ko |   +6.03% |         +1.52%
 0m02.76s |  801372 ko | field/all_field.vo               |  0m02.60s |  788664 ko || +0m00.16s ||     12708 ko |   +6.15% |         +1.61%
 0m02.69s |  510448 ko | ssreflect/ssrnat.vo              |  0m02.69s |  509988 ko || +0m00.00s ||       460 ko |   +0.00% |         +0.09%
 0m02.66s |  525776 ko | solvable/gfunctor.vo             |  0m02.68s |  527360 ko || -0m00.02s ||     -1584 ko |   -0.74% |         -0.30%
 0m02.61s |  608728 ko | solvable/primitive_action.vo     |  0m02.50s |  601360 ko || +0m00.11s ||      7368 ko |   +4.39% |         +1.22%
 0m02.48s |  518484 ko | ssreflect/binomial.vo            |  0m02.46s |  517940 ko || +0m00.02s ||       544 ko |   +0.81% |         +0.10%
 0m02.42s |  503592 ko | ssreflect/fingraph.vo            |  0m02.43s |  503332 ko || -0m00.01s ||       260 ko |   -0.41% |         +0.05%
 0m02.36s |  680684 ko | solvable/all_solvable.vo         |  0m02.16s |  683736 ko || +0m00.20s ||     -3052 ko |   +9.25% |         -0.44%
 0m02.24s |  517572 ko | ssreflect/generic_quotient.vo    |  0m02.23s |  516952 ko || +0m00.01s ||       620 ko |   +0.44% |         +0.11%
 0m02.02s |  517516 ko | ssreflect/tuple.vo               |  0m02.03s |  519064 ko || -0m00.01s ||     -1548 ko |   -0.49% |         -0.29%
 0m01.85s |  505312 ko | ssreflect/finfun.vo              |  0m01.83s |  504832 ko || +0m00.02s ||       480 ko |   +1.09% |         +0.09%
 0m01.81s |  498000 ko | ssreflect/div.vo                 |  0m01.81s |  494332 ko || +0m00.00s ||      3668 ko |   +0.00% |         +0.74%
 0m01.77s |  521844 ko | solvable/commutator.vo           |  0m01.76s |  525728 ko || +0m00.01s ||     -3884 ko |   +0.56% |         -0.73%
 0m01.73s |  504144 ko | ssreflect/eqtype.vo              |  0m01.77s |  503704 ko || -0m00.04s ||       440 ko |   -2.25% |         +0.08%
 0m00.84s |  512180 ko | fingroup/presentation.vo         |  0m00.85s |  511816 ko || -0m00.01s ||       364 ko |   -1.17% |         +0.07%
 0m00.65s |  495284 ko | ssreflect/ssrAC.vo               |  0m00.63s |  494732 ko || +0m00.02s ||       552 ko |   +3.17% |         +0.11%
 0m00.43s |  462316 ko | fingroup/all_fingroup.vo         |  0m00.40s |  461660 ko || +0m00.03s ||       656 ko |   +7.49% |         +0.14%
 0m00.13s |  169944 ko | ssreflect/ssrbool.vo             |  0m00.12s |  168932 ko || +0m00.01s ||      1012 ko |   +8.33% |         +0.59%
 0m00.10s |  152932 ko | ssreflect/ssrfun.vo              |  0m00.12s |  152160 ko || -0m00.02s ||       772 ko |  -16.66% |         +0.50%
 0m00.09s |  128704 ko | ssreflect/ssreflect.vo           |  0m00.10s |  122280 ko || -0m00.01s ||      6424 ko |  -10.00% |         +5.25%
 0m00.06s |  110352 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  110244 ko || +0m00.00s ||       108 ko |   +0.00% |         +0.09%
 0m00.05s |  107200 ko | ssreflect/ssrmatching.vo         |  0m00.05s |  107300 ko || +0m00.00s ||      -100 ko |   +0.00% |         -0.09%
```

**Comment by proux01** [comment]
About the bench, on which version of Coq / HB did you ran it? That can have quite an impact those days: https://coq.zulipchat.com/#narrow/stream/237664-math-comp-users/topic/Performance.20of.208.2E21.20.28the.20first.20release.20of.20Rocq.2C.20Jan.202025.29/near/454470983

**Comment by pi8027** [comment]
I ran it on Coq 8.19.0, Coq-Elpi 2.2.0, and HB 1.7.0.

**Comment by proux01** [comment]
Would be interesting to get the figures on Coq master + HB master then (I'd expect the overhead to be much smaller).

File: mathcomp/algebra/ssralg.v [hunk 13]
```diff
@@ -2105,88 +2183,205 @@ Proof. by rewrite rmorphXn /= rmorphN1. Qed.
...
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.type instead.")]
+Notation type := (Semilinear.type idfun).
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.copy instead.")]
+Notation copy T C := (Semilinear.copy T C).
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.on instead.")]
+Notation on T := (Semilinear.on T).
+End Linear.
 
-HB.mixin Record isScalable (R : ringType) (U : lmodType R) (V : zmodType)
+Definition semilinear_for (R S : semiRingType) (f : {rmorphism R -> S})
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:2339]: f does not need to be a rmorphism in this definition, juste R -> S.

File: mathcomp/algebra/ssralg.v (hunk 10 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v]: what about `{ 'linear' U -> V / f | s}`  and if no `f` is provided it defaults to identity.

File: mathcomp/algebra/ssralg.v (hunk 13 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Thanks. Fixed.

**Comment by pi8027** [comment]
BTW, it took me a while to figure out how to do per-file and per-line performance comparisons of two branches of MathComp at the same time. Here is the solution (should be written somewhere on the wiki):
```
make -C mathcomp Makefile.coq
TIMING=before make -C mathcomp -f Makefile.coq make-pretty-timed-before 
git reset --hard ...
touch **/*.v
TIMING=after make -C mathcomp -f Makefile.coq make-pretty-timed-after 
```

File: mathcomp/algebra/ssralg.v (hunk 10 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: `V` in `{linear U -> V | s}` is at level 99, and the infix notation `/` is declared at level 40. Therefore, `{linear U -> V / f | s}` is parsed as `{linear U -> (V / f) | s}`, and this notation does not seem to work.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Yes, I will try.

**Comment by pi8027** [comment]
New bench (https://github.com/math-comp/math-comp/compare/3ac1089f..3a85d090):
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
32m22.15s | 1836968 ko | Total Time / Peak Mem            | 29m27.79s | 1837604 ko || +2m54.36s ||      -636 ko |   +9.86% |         -0.03%
-------------------------------------------------------------------------------------------------------------------------------------------
 1m21.13s | 1181716 ko | character/mxrepresentation.vo    |  0m47.15s | 1070728 ko || +0m33.98s ||    110988 ko |  +72.06% |        +10.36%
 0m47.92s |  969412 ko | algebra/vector.vo                |  0m17.20s |  887208 ko || +0m30.72s ||     82204 ko | +178.60% |         +9.26%
 2m04.96s | 1430340 ko | algebra/ssralg.vo                |  1m40.60s | 1329096 ko || +0m24.36s ||    101244 ko |  +24.21% |         +7.61%
 0m44.28s | 1094268 ko | character/character.vo           |  0m34.09s | 1081700 ko || +0m10.19s ||     12568 ko |  +29.89% |         +1.16%
 0m28.55s |  874840 ko | algebra/mxalgebra.vo             |  0m19.34s |  848964 ko || +0m09.21s ||     25876 ko |  +47.62% |         +3.04%
 0m20.98s |  819332 ko | field/separable.vo               |  0m14.51s |  769540 ko || +0m06.47s ||     49792 ko |  +44.58% |         +6.47%
 1m12.36s | 1395844 ko | algebra/matrix.vo                |  1m06.84s | 1376888 ko || +0m05.52s ||     18956 ko |   +8.25% |         +1.37%
 0m42.56s | 1042048 ko | field/galois.vo                  |  0m37.48s |  982224 ko || +0m05.08s ||     59824 ko |  +13.55% |         +6.09%
 1m24.33s | 1274900 ko | algebra/ssrnum.vo                |  1m19.88s | 1271680 ko || +0m04.45s ||      3220 ko |   +5.57% |         +0.25%
 0m48.14s | 1005080 ko | algebra/finalg.vo                |  0m43.49s |  932360 ko || +0m04.65s ||     72720 ko |  +10.69% |         +7.79%
 0m34.56s | 1128680 ko | field/fieldext.vo                |  0m29.98s | 1063996 ko || +0m04.58s ||     64684 ko |  +15.27% |         +6.07%
 0m46.11s | 1422824 ko | field/algebraics_fundamentals.vo |  0m42.92s | 1515872 ko || +0m03.19s ||    -93048 ko |   +7.43% |         -6.13%
 0m39.21s | 1179772 ko | field/finfield.vo                |  0m35.27s | 1131840 ko || +0m03.94s ||     47932 ko |  +11.17% |         +4.23%
 0m43.16s | 1315628 ko | algebra/archimedean.vo           |  0m40.52s | 1188356 ko || +0m02.64s ||    127272 ko |   +6.51% |        +10.70%
 0m18.73s |  898940 ko | field/falgebra.vo                |  0m16.63s |  889984 ko || +0m02.10s ||      8956 ko |  +12.62% |         +1.00%
 7m01.30s | 1836968 ko | ssreflect/order.vo               |  7m02.32s | 1837604 ko || -0m01.02s ||      -636 ko |   -0.24% |         -0.03%
 0m37.73s | 1211440 ko | character/classfun.vo            |  0m35.87s | 1204408 ko || +0m01.86s ||      7032 ko |   +5.18% |         +0.58%
 0m34.40s | 1294140 ko | field/algC.vo                    |  0m32.79s | 1234316 ko || +0m01.61s ||     59824 ko |   +4.91% |         +4.84%
 0m25.97s |  864152 ko | algebra/mxpoly.vo                |  0m24.95s |  839540 ko || +0m01.02s ||     24612 ko |   +4.08% |         +2.93%
 0m22.69s |  829360 ko | algebra/poly.vo                  |  0m20.85s |  802492 ko || +0m01.84s ||     26868 ko |   +8.82% |         +3.34%
 0m19.09s |  938464 ko | field/algnum.vo                  |  0m17.90s |  908136 ko || +0m01.19s ||     30328 ko |   +6.64% |         +3.33%
 0m18.40s |  719388 ko | algebra/countalg.vo              |  0m16.81s |  693164 ko || +0m01.59s ||     26224 ko |   +9.45% |         +3.78%
 0m17.14s |  865716 ko | algebra/qpoly.vo                 |  0m15.37s |  837428 ko || +0m01.77s ||     28288 ko |  +11.51% |         +3.37%
 0m16.91s |  912904 ko | field/qfpoly.vo                  |  0m15.64s |  888332 ko || +0m01.27s ||     24572 ko |   +8.12% |         +2.76%
 0m15.56s |  658036 ko | algebra/polydiv.vo               |  0m14.41s |  646148 ko || +0m01.15s ||     11888 ko |   +7.98% |         +1.83%
 0m14.33s |  803660 ko | character/mxabelem.vo            |  0m13.23s |  771456 ko || +0m01.10s ||     32204 ko |   +8.31% |         +4.17%
 0m13.09s |  718728 ko | algebra/ring_quotient.vo         |  0m11.99s |  683932 ko || +0m01.10s ||     34796 ko |   +9.17% |         +5.08%
 0m41.43s |  942532 ko | solvable/extremal.vo             |  0m41.29s |  922448 ko || +0m00.14s ||     20084 ko |   +0.33% |         +2.17%
 0m27.70s |  857928 ko | solvable/extraspecial.vo         |  0m27.18s |  845608 ko || +0m00.52s ||     12320 ko |   +1.91% |         +1.45%
 0m23.50s | 1052264 ko | algebra/interval.vo              |  0m22.81s | 1000320 ko || +0m00.69s ||     51944 ko |   +3.02% |         +5.19%
 0m22.36s |  941836 ko | character/inertia.vo             |  0m21.98s |  935644 ko || +0m00.38s ||      6192 ko |   +1.72% |         +0.66%
 0m20.26s |  950608 ko | field/closed_field.vo            |  0m19.89s |  946460 ko || +0m00.37s ||      4148 ko |   +1.86% |         +0.43%
 0m19.38s |  706596 ko | solvable/burnside_app.vo         |  0m19.39s |  693888 ko || -0m00.01s ||     12708 ko |   -0.05% |         +1.83%
 0m18.17s |  964916 ko | character/integral_char.vo       |  0m17.73s |  937396 ko || +0m00.44s ||     27520 ko |   +2.48% |         +2.93%
 0m18.16s |  897184 ko | algebra/rat.vo                   |  0m17.50s |  875492 ko || +0m00.66s ||     21692 ko |   +3.77% |         +2.47%
 0m18.14s |  949864 ko | character/vcharacter.vo          |  0m17.50s |  930580 ko || +0m00.64s ||     19284 ko |   +3.65% |         +2.07%
 0m15.61s |  882148 ko | algebra/ssrint.vo                |  0m14.88s |  875284 ko || +0m00.73s ||      6864 ko |   +4.90% |         +0.78%
 0m15.30s |  619316 ko | fingroup/gproduct.vo             |  0m15.66s |  618728 ko || -0m00.36s ||       588 ko |   -2.29% |         +0.09%
 0m14.92s |  654164 ko | solvable/hall.vo                 |  0m14.86s |  648160 ko || +0m00.06s ||      6004 ko |   +0.40% |         +0.92%
 0m14.64s |  675596 ko | solvable/maximal.vo              |  0m14.45s |  668688 ko || +0m00.19s ||      6908 ko |   +1.31% |         +1.03%
 0m12.89s |  673212 ko | solvable/abelian.vo              |  0m12.85s |  664504 ko || +0m00.04s ||      8708 ko |   +0.31% |         +1.31%
 0m12.49s |  841496 ko | algebra/intdiv.vo                |  0m12.08s |  826692 ko || +0m00.41s ||     14804 ko |   +3.39% |         +1.79%
 0m10.59s |  582016 ko | fingroup/action.vo               |  0m10.66s |  586084 ko || -0m00.07s ||     -4068 ko |   -0.65% |         -0.69%
 0m08.52s |  593820 ko | fingroup/fingroup.vo             |  0m08.58s |  595524 ko || -0m00.06s ||     -1704 ko |   -0.69% |         -0.28%
 0m08.49s |  651612 ko | solvable/finmodule.vo            |  0m07.99s |  633780 ko || +0m00.50s ||     17832 ko |   +6.25% |         +2.81%
 0m07.92s |  625496 ko | solvable/alt.vo                  |  0m07.79s |  616332 ko || +0m00.13s ||      9164 ko |   +1.66% |         +1.48%
 0m07.67s |  571996 ko | ssreflect/seq.vo                 |  0m07.70s |  571020 ko || -0m00.03s ||       976 ko |   -0.38% |         +0.17%
 0m07.57s |  622168 ko | solvable/center.vo               |  0m07.58s |  617428 ko || -0m00.01s ||      4740 ko |   -0.13% |         +0.76%
 0m07.30s |  582988 ko | ssreflect/bigop.vo               |  0m07.28s |  584344 ko || +0m00.02s ||     -1356 ko |   +0.27% |         -0.23%
 0m07.13s |  728748 ko | algebra/polyXY.vo                |  0m06.67s |  717812 ko || +0m00.46s ||     10936 ko |   +6.89% |         +1.52%
 0m07.03s |  885284 ko | all/all.vo                       |  0m06.62s |  855996 ko || +0m00.41s ||     29288 ko |   +6.19% |         +3.42%
 0m07.00s |  561192 ko | ssreflect/finset.vo              |  0m06.96s |  560264 ko || +0m00.04s ||       928 ko |   +0.57% |         +0.16%
 0m06.85s |  645988 ko | algebra/zmodp.vo                 |  0m06.35s |  634200 ko || +0m00.50s ||     11788 ko |   +7.87% |         +1.85%
 0m06.56s |  534672 ko | fingroup/morphism.vo             |  0m06.53s |  534280 ko || +0m00.03s ||       392 ko |   +0.45% |         +0.07%
 0m06.48s |  621056 ko | solvable/cyclic.vo               |  0m06.31s |  614516 ko || +0m00.17s ||      6540 ko |   +2.69% |         +1.06%
 0m06.30s |  616660 ko | solvable/pgroup.vo               |  0m06.25s |  613260 ko || +0m00.05s ||      3400 ko |   +0.79% |         +0.55%
 0m06.27s |  608324 ko | solvable/jordanholder.vo         |  0m06.21s |  601496 ko || +0m00.06s ||      6828 ko |   +0.96% |         +1.13%
 0m06.24s |  797484 ko | field/cyclotomic.vo              |  0m05.92s |  788340 ko || +0m00.32s ||      9144 ko |   +5.40% |         +1.15%
 0m06.01s |  616440 ko | solvable/frobenius.vo            |  0m05.96s |  613192 ko || +0m00.05s ||      3248 ko |   +0.83% |         +0.52%
 0m05.89s |  610900 ko | algebra/fraction.vo              |  0m05.48s |  607312 ko || +0m00.41s ||      3588 ko |   +7.48% |         +0.59%
 0m05.82s |  564644 ko | ssreflect/fintype.vo             |  0m05.76s |  564160 ko || +0m00.06s ||       484 ko |   +1.04% |         +0.08%
 0m05.24s |  530844 ko | fingroup/quotient.vo             |  0m05.26s |  530352 ko || -0m00.02s ||       492 ko |   -0.38% |         +0.09%
 0m04.81s |  611660 ko | solvable/gseries.vo              |  0m04.70s |  598952 ko || +0m00.11s ||     12708 ko |   +2.34% |         +2.12%
 0m04.62s |  607984 ko | solvable/sylow.vo                |  0m04.61s |  606804 ko || +0m00.01s ||      1180 ko |   +0.21% |         +0.19%
 0m04.30s |  522572 ko | ssreflect/prime.vo               |  0m04.37s |  522216 ko || -0m00.07s ||       356 ko |   -1.60% |         +0.06%
 0m04.22s |  605960 ko | solvable/nilpotent.vo            |  0m04.12s |  600780 ko || +0m00.10s ||      5180 ko |   +2.42% |         +0.86%
 0m03.88s |  766132 ko | algebra/all_algebra.vo           |  0m03.58s |  755416 ko || +0m00.30s ||     10716 ko |   +8.37% |         +1.41%
 0m03.46s |  517660 ko | ssreflect/choice.vo              |  0m03.47s |  519112 ko || -0m00.01s ||     -1452 ko |   -0.28% |         -0.27%
 0m03.33s |  500324 ko | ssreflect/path.vo                |  0m03.36s |  500276 ko || -0m00.03s ||        48 ko |   -0.89% |         +0.00%
 0m03.30s |  595132 ko | ssreflect/all_ssreflect.vo       |  0m03.29s |  594816 ko || +0m00.01s ||       316 ko |   +0.30% |         +0.05%
 0m03.23s |  532180 ko | fingroup/perm.vo                 |  0m03.23s |  531804 ko || +0m00.00s ||       376 ko |   +0.00% |         +0.07%
 0m03.14s |  517560 ko | fingroup/automorphism.vo         |  0m03.13s |  517396 ko || +0m00.01s ||       164 ko |   +0.31% |         +0.03%
 0m02.82s |  818460 ko | character/all_character.vo       |  0m02.65s |  806140 ko || +0m00.17s ||     12320 ko |   +6.41% |         +1.52%
 0m02.73s |  801324 ko | field/all_field.vo               |  0m02.55s |  788720 ko || +0m00.18s ||     12604 ko |   +7.05% |         +1.59%
 0m02.68s |  510272 ko | ssreflect/ssrnat.vo              |  0m02.72s |  509800 ko || -0m00.04s ||       472 ko |   -1.47% |         +0.09%
 0m02.66s |  527756 ko | solvable/gfunctor.vo             |  0m02.67s |  525384 ko || -0m00.01s ||      2372 ko |   -0.37% |         +0.45%
 0m02.55s |  608744 ko | solvable/primitive_action.vo     |  0m02.54s |  601136 ko || +0m00.01s ||      7608 ko |   +0.39% |         +1.26%
 0m02.43s |  518944 ko | ssreflect/binomial.vo            |  0m02.48s |  517904 ko || -0m00.05s ||      1040 ko |   -2.01% |         +0.20%
 0m02.40s |  503384 ko | ssreflect/fingraph.vo            |  0m02.42s |  503308 ko || -0m00.02s ||        76 ko |   -0.82% |         +0.01%
 0m02.38s |  680784 ko | solvable/all_solvable.vo         |  0m02.15s |  683692 ko || +0m00.23s ||     -2908 ko |  +10.69% |         -0.42%
 0m02.22s |  519144 ko | ssreflect/generic_quotient.vo    |  0m02.23s |  517252 ko || -0m00.01s ||      1892 ko |   -0.44% |         +0.36%
 0m02.02s |  517552 ko | ssreflect/tuple.vo               |  0m02.00s |  517268 ko || +0m00.02s ||       284 ko |   +1.00% |         +0.05%
 0m01.84s |  505172 ko | ssreflect/finfun.vo              |  0m01.87s |  504832 ko || -0m00.03s ||       340 ko |   -1.60% |         +0.06%
 0m01.83s |  494360 ko | ssreflect/div.vo                 |  0m01.86s |  493952 ko || -0m00.03s ||       408 ko |   -1.61% |         +0.08%
 0m01.78s |  519924 ko | solvable/commutator.vo           |  0m01.77s |  525720 ko || +0m00.01s ||     -5796 ko |   +0.56% |         -1.10%
 0m01.73s |  504104 ko | ssreflect/eqtype.vo              |  0m01.73s |  503816 ko || +0m00.00s ||       288 ko |   +0.00% |         +0.05%
 0m00.87s |  511960 ko | fingroup/presentation.vo         |  0m00.85s |  511836 ko || +0m00.02s ||       124 ko |   +2.35% |         +0.02%
 0m00.64s |  496984 ko | ssreflect/ssrAC.vo               |  0m00.63s |  498616 ko || +0m00.01s ||     -1632 ko |   +1.58% |         -0.32%
 0m00.42s |  461680 ko | fingroup/all_fingroup.vo         |  0m00.41s |  462892 ko || +0m00.01s ||     -1212 ko |   +2.43% |         -0.26%
 0m00.12s |  169592 ko | ssreflect/ssrbool.vo             |  0m00.12s |  169948 ko || +0m00.00s ||      -356 ko |   +0.00% |         -0.20%
 0m00.11s |  153224 ko | ssreflect/ssrfun.vo              |  0m00.12s |  150764 ko || -0m00.01s ||      2460 ko |   -8.33% |         +1.63%
 0m00.08s |  130208 ko | ssreflect/ssreflect.vo           |  0m00.09s |  122768 ko || -0m00.01s ||      7440 ko |  -11.11% |         +6.06%
 0m00.07s |  109168 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  110516 ko || +0m00.01s ||     -1348 ko |  +16.66% |         -1.21%
 0m00.06s |  106496 ko | ssreflect/ssrmatching.vo         |  0m00.07s |  106492 ko || -0m00.01s ||         4 ko |  -14.28% |         +0.00%
```

**Comment by proux01** [comment]
Still on Coq 8.19 / HB 1.7 ?

**Comment by pi8027** [comment]
Yes.

**Comment by pi8027** [comment]
Same comparison with Coq and HB master:
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
17m47.41s | 1742172 ko | Total Time / Peak Mem            | 15m37.81s | 1742168 ko || +2m09.60s ||         4 ko |  +13.81% |         +0.00%
-------------------------------------------------------------------------------------------------------------------------------------------
 1m08.74s | 1074012 ko | character/mxrepresentation.vo    |  0m33.66s |  973756 ko || +0m35.08s ||    100256 ko | +104.21% |        +10.29%
 0m45.15s |  863388 ko | algebra/vector.vo                |  0m10.66s |  759312 ko || +0m34.49s ||    104076 ko | +323.54% |        +13.70%
 0m34.46s | 1003192 ko | character/character.vo           |  0m23.68s |  952392 ko || +0m10.78s ||     50800 ko |  +45.52% |         +5.33%
 0m23.82s |  820924 ko | algebra/mxalgebra.vo             |  0m13.66s |  786564 ko || +0m10.16s ||     34360 ko |  +74.37% |         +4.36%
 0m45.89s | 1377492 ko | algebra/ssralg.vo                |  0m38.66s | 1250484 ko || +0m07.23s ||    127008 ko |  +18.70% |        +10.15%
 0m18.60s |  780700 ko | field/separable.vo               |  0m11.79s |  735972 ko || +0m06.81s ||     44728 ko |  +57.76% |         +6.07%
 0m26.77s |  916600 ko | field/galois.vo                  |  0m23.06s |  874920 ko || +0m03.71s ||     41680 ko |  +16.08% |         +4.76%
 0m29.50s | 1193880 ko | algebra/matrix.vo                |  0m27.26s | 1132672 ko || +0m02.24s ||     61208 ko |   +8.21% |         +5.40%
 0m33.96s | 1287172 ko | field/algebraics_fundamentals.vo |  0m32.03s | 1226276 ko || +0m01.93s ||     60896 ko |   +6.02% |         +4.96%
 0m17.26s |  919404 ko | field/fieldext.vo                |  0m15.45s |  862300 ko || +0m01.81s ||     57104 ko |  +11.71% |         +6.62%
 0m12.71s |  745596 ko | algebra/finalg.vo                |  0m11.68s |  724000 ko || +0m01.03s ||     21596 ko |   +8.81% |         +2.98%
 0m12.02s |  760108 ko | character/mxabelem.vo            |  0m10.83s |  724732 ko || +0m01.19s ||     35376 ko |  +10.98% |         +4.88%
 2m16.93s | 1742172 ko | ssreflect/order.vo               |  2m16.51s | 1742168 ko || +0m00.42s ||         4 ko |   +0.30% |         +0.00%
 0m30.04s |  929688 ko | solvable/extremal.vo             |  0m29.54s |  909120 ko || +0m00.50s ||     20568 ko |   +1.69% |         +2.26%
 0m28.82s |  969084 ko | algebra/ssrnum.vo                |  0m28.38s |  950648 ko || +0m00.44s ||     18436 ko |   +1.55% |         +1.93%
 0m23.23s |  813988 ko | algebra/mxpoly.vo                |  0m22.43s |  791936 ko || +0m00.80s ||     22052 ko |   +3.56% |         +2.78%
 0m20.43s | 1007588 ko | character/classfun.vo            |  0m19.92s |  991628 ko || +0m00.51s ||     15960 ko |   +2.56% |         +1.60%
 0m19.34s |  819856 ko | solvable/extraspecial.vo         |  0m19.04s |  804872 ko || +0m00.30s ||     14984 ko |   +1.57% |         +1.86%
 0m17.16s |  876320 ko | character/inertia.vo             |  0m16.83s |  864164 ko || +0m00.33s ||     12156 ko |   +1.96% |         +1.40%
 0m15.78s |  684320 ko | solvable/burnside_app.vo         |  0m15.71s |  672644 ko || +0m00.07s ||     11676 ko |   +0.44% |         +1.73%
 0m15.63s |  956808 ko | field/finfield.vo                |  0m14.70s |  898944 ko || +0m00.93s ||     57864 ko |   +6.32% |         +6.43%
 0m14.07s |  739660 ko | algebra/poly.vo                  |  0m13.72s |  727992 ko || +0m00.35s ||     11668 ko |   +2.55% |         +1.60%
 0m13.67s |  865536 ko | field/closed_field.vo            |  0m13.53s |  859908 ko || +0m00.14s ||      5628 ko |   +1.03% |         +0.65%
 0m13.25s |  862892 ko | character/integral_char.vo       |  0m12.85s |  850308 ko || +0m00.40s ||     12584 ko |   +3.11% |         +1.47%
 0m12.84s |  633176 ko | algebra/polydiv.vo               |  0m12.17s |  623756 ko || +0m00.67s ||      9420 ko |   +5.50% |         +1.51%
 0m12.82s |  863280 ko | field/algnum.vo                  |  0m12.26s |  847064 ko || +0m00.56s ||     16216 ko |   +4.56% |         +1.91%
 0m12.61s |  872816 ko | field/algC.vo                    |  0m12.19s |  867024 ko || +0m00.42s ||      5792 ko |   +3.44% |         +0.66%
 0m12.28s |  653624 ko | solvable/maximal.vo              |  0m12.10s |  640200 ko || +0m00.18s ||     13424 ko |   +1.48% |         +2.09%
 0m11.64s |  605480 ko | fingroup/gproduct.vo             |  0m11.64s |  604648 ko || +0m00.00s ||       832 ko |   +0.00% |         +0.13%
 0m11.54s |  633172 ko | solvable/hall.vo                 |  0m11.52s |  625764 ko || +0m00.02s ||      7408 ko |   +0.17% |         +1.18%
 0m11.36s |  847544 ko | character/vcharacter.vo          |  0m11.02s |  837836 ko || +0m00.34s ||      9708 ko |   +3.08% |         +1.15%
 0m11.10s |  802788 ko | algebra/interval.vo              |  0m10.83s |  774524 ko || +0m00.27s ||     28264 ko |   +2.49% |         +3.64%
 0m10.71s |  784040 ko | algebra/archimedean.vo           |  0m10.44s |  766632 ko || +0m00.27s ||     17408 ko |   +2.58% |         +2.27%
 0m10.20s |  645320 ko | solvable/abelian.vo              |  0m10.17s |  634168 ko || +0m00.03s ||     11152 ko |   +0.29% |         +1.75%
 0m09.37s |  768144 ko | algebra/intdiv.vo                |  0m08.97s |  764028 ko || +0m00.40s ||      4116 ko |   +4.45% |         +0.53%
 0m09.21s |  766920 ko | field/falgebra.vo                |  0m08.61s |  725968 ko || +0m00.60s ||     40952 ko |   +6.96% |         +5.64%
 0m09.05s |  569124 ko | fingroup/action.vo               |  0m09.01s |  568672 ko || +0m00.04s ||       452 ko |   +0.44% |         +0.07%
 0m08.79s |  824156 ko | field/qfpoly.vo                  |  0m08.35s |  802900 ko || +0m00.44s ||     21256 ko |   +5.26% |         +2.64%
 0m08.69s |  737188 ko | algebra/rat.vo                   |  0m08.64s |  743908 ko || +0m00.05s ||     -6720 ko |   +0.57% |         -0.90%
 0m08.58s |  739020 ko | algebra/ssrint.vo                |  0m08.53s |  727616 ko || +0m00.05s ||     11404 ko |   +0.58% |         +1.56%
 0m08.35s |  760736 ko | algebra/qpoly.vo                 |  0m07.98s |  727768 ko || +0m00.37s ||     32968 ko |   +4.63% |         +4.53%
 0m07.27s |  568372 ko | ssreflect/seq.vo                 |  0m07.35s |  564520 ko || -0m00.08s ||      3852 ko |   -1.08% |         +0.68%
 0m06.74s |  572880 ko | fingroup/fingroup.vo             |  0m06.66s |  572392 ko || +0m00.08s ||       488 ko |   +1.20% |         +0.08%
 0m06.38s |  590656 ko | solvable/center.vo               |  0m06.31s |  581704 ko || +0m00.07s ||      8952 ko |   +1.10% |         +1.53%
 0m06.34s |  598652 ko | solvable/alt.vo                  |  0m06.27s |  594900 ko || +0m00.07s ||      3752 ko |   +1.11% |         +0.63%
 0m06.12s |  533908 ko | ssreflect/finset.vo              |  0m06.03s |  533512 ko || +0m00.09s ||       396 ko |   +1.49% |         +0.07%
 0m05.90s |  706668 ko | algebra/polyXY.vo                |  0m05.70s |  684808 ko || +0m00.20s ||     21860 ko |   +3.50% |         +3.19%
 0m05.75s |  587588 ko | solvable/jordanholder.vo         |  0m05.59s |  580292 ko || +0m00.16s ||      7296 ko |   +2.86% |         +1.25%
 0m05.59s |  612436 ko | solvable/finmodule.vo            |  0m05.47s |  611308 ko || +0m00.12s ||      1128 ko |   +2.19% |         +0.18%
 0m05.57s |  521348 ko | fingroup/morphism.vo             |  0m05.58s |  520900 ko || -0m00.01s ||       448 ko |   -0.17% |         +0.08%
 0m05.56s |  595064 ko | solvable/pgroup.vo               |  0m05.55s |  584032 ko || +0m00.01s ||     11032 ko |   +0.18% |         +1.88%
 0m05.53s |  572792 ko | ssreflect/bigop.vo               |  0m05.52s |  573164 ko || +0m00.01s ||      -372 ko |   +0.18% |         -0.06%
 0m05.40s |  590904 ko | solvable/frobenius.vo            |  0m05.38s |  589836 ko || +0m00.02s ||      1068 ko |   +0.37% |         +0.18%
 0m05.17s |  602256 ko | solvable/cyclic.vo               |  0m05.00s |  586480 ko || +0m00.17s ||     15776 ko |   +3.39% |         +2.68%
 0m05.14s |  764560 ko | field/cyclotomic.vo              |  0m04.87s |  753632 ko || +0m00.27s ||     10928 ko |   +5.54% |         +1.45%
 0m04.64s |  620208 ko | algebra/ring_quotient.vo         |  0m04.41s |  618536 ko || +0m00.23s ||      1672 ko |   +5.21% |         +0.27%
 0m04.50s |  585228 ko | solvable/gseries.vo              |  0m04.37s |  578720 ko || +0m00.13s ||      6508 ko |   +2.97% |         +1.12%
 0m04.44s |  613216 ko | algebra/countalg.vo              |  0m04.15s |  609720 ko || +0m00.29s ||      3496 ko |   +6.98% |         +0.57%
 0m04.40s |  556660 ko | ssreflect/fintype.vo             |  0m04.38s |  554288 ko || +0m00.02s ||      2372 ko |   +0.45% |         +0.42%
 0m04.36s |  587600 ko | solvable/sylow.vo                |  0m04.25s |  581764 ko || +0m00.11s ||      5836 ko |   +2.58% |         +1.00%
 0m04.33s |  519588 ko | fingroup/quotient.vo             |  0m04.33s |  519344 ko || +0m00.00s ||       244 ko |   +0.00% |         +0.04%
 0m03.98s |  509364 ko | ssreflect/prime.vo               |  0m04.01s |  508820 ko || -0m00.03s ||       544 ko |   -0.74% |         +0.10%
 0m03.91s |  832164 ko | all/all.vo                       |  0m03.63s |  825396 ko || +0m00.28s ||      6768 ko |   +7.71% |         +0.81%
 0m03.75s |  586668 ko | solvable/nilpotent.vo            |  0m03.62s |  580484 ko || +0m00.13s ||      6184 ko |   +3.59% |         +1.06%
 0m03.19s |  589520 ko | algebra/fraction.vo              |  0m03.00s |  584228 ko || +0m00.19s ||      5292 ko |   +6.33% |         +0.90%
 0m03.16s |  491440 ko | ssreflect/path.vo                |  0m03.23s |  490908 ko || -0m00.07s ||       532 ko |   -2.16% |         +0.10%
 0m02.77s |  614152 ko | algebra/zmodp.vo                 |  0m02.68s |  613444 ko || +0m00.09s ||       708 ko |   +3.35% |         +0.11%
 0m02.68s |  504756 ko | fingroup/automorphism.vo         |  0m02.62s |  504708 ko || +0m00.06s ||        48 ko |   +2.29% |         +0.00%
 0m02.60s |  778380 ko | character/all_character.vo       |  0m02.48s |  766368 ko || +0m00.12s ||     12012 ko |   +4.83% |         +1.56%
 0m02.58s |  511260 ko | ssreflect/ssrnat.vo              |  0m02.57s |  511108 ko || +0m00.01s ||       152 ko |   +0.38% |         +0.02%
 0m02.56s |  761452 ko | field/all_field.vo               |  0m02.40s |  744992 ko || +0m00.16s ||     16460 ko |   +6.66% |         +2.20%
 0m02.52s |  517548 ko | fingroup/perm.vo                 |  0m02.49s |  517252 ko || +0m00.03s ||       296 ko |   +1.20% |         +0.05%
 0m02.51s |  723848 ko | algebra/all_algebra.vo           |  0m02.44s |  720264 ko || +0m00.07s ||      3584 ko |   +2.86% |         +0.49%
 0m02.29s |  588064 ko | solvable/primitive_action.vo     |  0m02.25s |  581524 ko || +0m00.04s ||      6540 ko |   +1.77% |         +1.12%
 0m02.26s |  513012 ko | solvable/gfunctor.vo             |  0m02.29s |  514536 ko || -0m00.03s ||     -1524 ko |   -1.31% |         -0.29%
 0m02.26s |  492888 ko | ssreflect/fingraph.vo            |  0m02.29s |  492372 ko || -0m00.03s ||       516 ko |   -1.31% |         +0.10%
 0m02.18s |  507552 ko | ssreflect/binomial.vo            |  0m02.16s |  507336 ko || +0m00.02s ||       216 ko |   +0.92% |         +0.04%
 0m02.07s |  675768 ko | solvable/all_solvable.vo         |  0m01.93s |  648292 ko || +0m00.14s ||     27476 ko |   +7.25% |         +4.23%
 0m02.05s |  513748 ko | ssreflect/choice.vo              |  0m02.01s |  513468 ko || +0m00.04s ||       280 ko |   +1.99% |         +0.05%
 0m01.81s |  489300 ko | ssreflect/div.vo                 |  0m01.80s |  488792 ko || +0m00.01s ||       508 ko |   +0.55% |         +0.10%
 0m01.55s |  513056 ko | solvable/commutator.vo           |  0m01.54s |  512660 ko || +0m00.01s ||       396 ko |   +0.64% |         +0.07%
 0m01.45s |  562672 ko | ssreflect/all_ssreflect.vo       |  0m01.44s |  562632 ko || +0m00.01s ||        40 ko |   +0.69% |         +0.00%
 0m01.41s |  495216 ko | ssreflect/eqtype.vo              |  0m01.40s |  493256 ko || +0m00.01s ||      1960 ko |   +0.71% |         +0.39%
 0m01.41s |  498996 ko | ssreflect/finfun.vo              |  0m01.43s |  501020 ko || -0m00.02s ||     -2024 ko |   -1.39% |         -0.40%
 0m01.39s |  502256 ko | ssreflect/tuple.vo               |  0m01.37s |  502312 ko || +0m00.02s ||       -56 ko |   +1.45% |         -0.01%
 0m01.37s |  502212 ko | ssreflect/generic_quotient.vo    |  0m01.36s |  504056 ko || +0m00.01s ||     -1844 ko |   +0.73% |         -0.36%
 0m00.79s |  501480 ko | fingroup/presentation.vo         |  0m00.78s |  500924 ko || +0m00.01s ||       556 ko |   +1.28% |         +0.11%
 0m00.57s |  441404 ko | ssreflect/ssrAC.vo               |  0m00.55s |  442312 ko || +0m00.02s ||      -908 ko |   +3.63% |         -0.20%
 0m00.42s |  342960 ko | fingroup/all_fingroup.vo         |  0m00.43s |  342256 ko || -0m00.01s ||       704 ko |   -2.32% |         +0.20%
 0m00.13s |  172452 ko | ssreflect/ssrbool.vo             |  0m00.13s |  173744 ko || +0m00.00s ||     -1292 ko |   +0.00% |         -0.74%
 0m00.10s |  145756 ko | ssreflect/ssrfun.vo              |  0m00.10s |  144772 ko || +0m00.00s ||       984 ko |   +0.00% |         +0.67%
 0m00.08s |  122068 ko | ssreflect/ssreflect.vo           |  0m00.07s |  123144 ko || +0m00.01s ||     -1076 ko |  +14.28% |         -0.87%
 0m00.06s |  108564 ko | ssreflect/ssrnotations.vo        |  0m00.07s |  108540 ko || -0m00.01s ||        24 ko |  -14.28% |         +0.02%
 0m00.05s |  105700 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  105936 ko || -0m00.01s ||      -236 ko |  -16.66% |         -0.22%
```
It doesn't seem to improve the performance of `rewrite`. I'm going to look at the traces.

File: mathcomp/algebra/ssralg.v (hunk 10 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Done. There is a minor issue that `{linear U -> V}` does not work in printing (printed as `{linear U -> V / idfun}`).

Comment (proux01) [reply mathcomp/algebra/ssralg.v]: You can maybe try to put specific `only printing` notations for those cases.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: That doesn't work. I suspect that it has something to do with reverse coercions.

Comment (proux01) [reply mathcomp/algebra/ssralg.v]: You may indeed have to add a few `only printing` notations explicitly containing the `reverse_coercion` coercion.

**Comment by pi8027** [comment]
I guess that generalizing nmodule and semiring instances for stuff like matrices and polynomials (partially) solve the performance issue. Let me try.

File: mathcomp/algebra/vector.v [hunk 14]
```diff
@@ -358,7 +358,7 @@ Let mem_r2v rv U : (r2v rv \in U) = (rv <= vs2mx U)%MS.
 Proof. by rewrite memvK r2vK. Qed.
 
 Let vs2mx0 : @vs2mx K vT 0 = 0.
-Proof. by rewrite /= linear0 genmx0. Qed.
+Proof. by rewrite /= raddf0 genmx0. Qed.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/vector.v:361]: Apparently, `rewrite linear0` is instantaneous in `coq.dev` here. I'm taking a look at another place now.

File: mathcomp/algebra/vector.v [hunk 15]
```diff
@@ -396,13 +396,14 @@ Lemma memvE v U : (v \in U) = (<[v]> <= U)%VS. Proof. by []. Qed.
 
 Lemma vlineP v1 v2 : reflect (exists k, v1 = k *: v2) (v1 \in <[v2]>)%VS.
 Proof.
-apply: (iffP idP) => [|[k ->]]; rewrite memvK genmxE ?linearZ ?scalemx_sub //.
-by case/sub_rVP=> k; rewrite -linearZ => /v2r_inj->; exists k.
+rewrite memvK genmxE; apply: (iffP idP) => [/sub_rVP[k]|[k ->]].
+  by rewrite -linearZ => /v2r_inj->; exists k.
+by rewrite linearZ/= scalemx_sub.
```
Comment (pi8027) [inline mathcomp/algebra/vector.v:401]: I'm taking a look at this `rewrite linearZ` now:
```coq
Set Debug "unification".
Fail Timeout 1 rewrite linearZ.
```
It seems that a lot of time is spent on comparing instances in `semi-modules`. Another difference I noticed is that the instance in question was a `Z-module` in `master` but is an `N-module` in `semi-module` (indeed). So, I added the following specialization of `linearZ`:
```coq
Lemma linearZ' (R : ringType) (U : lmodType R) (V : zmodType)
  (s : R -> V -> V) (S : ringType) (h : GRing.Scale.preLaw S V) (c : S) (a : R) :
  let h_c := h c in forall (g : Linear.map_for idfun U s a h_c) (u : U), g (a *: u) = h_c (g u).
Proof. exact: linearZ. Qed.
```
and compared the following two:
```coq
Time Fail Fail rewrite linearZ. (* 6.483 s *)
Time Fail Fail rewrite linearZ'. (* 1.43 s *)
```
While the latter is noticeably faster, `rewrite linearZ` was instantaneous (0.003 s) in `master`. Anyway, adding specialized versions of `linear` lemmas seems to mitigate the performance issue. (Then, the former should be `semilinearZ`, and the latter should be `linearZ`.)

Comment (pi8027) [reply mathcomp/algebra/vector.v:401]: So, I renamed `linearZ` to `semilinearZ` and added its specific version `linearZ` (without replacing `linearZ` with `semilinearZ` in most of the places in the proof scripts). It speeded up some lines but also slowed down some others.

File: mathcomp/algebra/ssralg.v (hunk 10 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: That worked. Thanks!

File: mathcomp/algebra/vector.v (hunk 15 above)
Comment (pi8027) [reply mathcomp/algebra/vector.v:401]: I'm investigating this performance issue again. Surprisingly, the following command takes about 5 seconds:
```coq
Check GRing.Semilinear.sort (@VectorInternalTheory_v2r__canonical__GRing_Semilinear _ _).
```
The unification traces of it and `rewrite linearZ` here look similar.

**Comment by pi8027** [comment]
Apparently, the culprit of the performance issue is the `GRing.isLinear` factory, and replacing it with `GRing.isSemilinear` fixes it!

**Comment by pi8027** [comment]
I hope this PR is almost ready. I will redo the benchmark later.

**Comment by pi8027** [comment]
New bench (https://github.com/math-comp/math-comp/compare/c4e22b00..8a6c7001):
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
16m47.44s | 1781044 ko | Total Time / Peak Mem            | 15m41.06s | 1780572 ko || +1m06.38s ||       472 ko |   +7.05% |         +0.02%
-------------------------------------------------------------------------------------------------------------------------------------------
 0m52.35s | 1065596 ko | character/mxrepresentation.vo    |  0m33.65s |  969448 ko || +0m18.70s ||     96148 ko |  +55.57% |         +9.91%
 0m33.73s |  982500 ko | character/character.vo           |  0m23.78s |  952240 ko || +0m09.95s ||     30260 ko |  +41.84% |         +3.17%
 0m45.99s | 1365128 ko | algebra/ssralg.vo                |  0m39.29s | 1254408 ko || +0m06.70s ||    110720 ko |  +17.05% |         +8.82%
 0m18.60s |  779800 ko | field/separable.vo               |  0m11.83s |  737796 ko || +0m06.77s ||     42004 ko |  +57.22% |         +5.69%
 0m26.80s |  904344 ko | field/galois.vo                  |  0m23.23s |  877060 ko || +0m03.57s ||     27284 ko |  +15.36% |         +3.11%
 0m34.11s | 1277156 ko | field/algebraics_fundamentals.vo |  0m32.28s | 1222088 ko || +0m01.83s ||     55068 ko |   +5.66% |         +4.50%
 0m17.40s |  914144 ko | field/fieldext.vo                |  0m15.51s |  864568 ko || +0m01.89s ||     49576 ko |  +12.18% |         +5.73%
 0m15.29s |  779824 ko | algebra/mxalgebra.vo             |  0m13.54s |  782200 ko || +0m01.75s ||     -2376 ko |  +12.92% |         -0.30%
 0m11.76s |  797312 ko | algebra/vector.vo                |  0m10.68s |  757184 ko || +0m01.08s ||     40128 ko |  +10.11% |         +5.29%
 2m17.02s | 1781044 ko | ssreflect/order.vo               |  2m16.80s | 1780572 ko || +0m00.22s ||       472 ko |   +0.16% |         +0.02%
 0m29.98s |  923348 ko | solvable/extremal.vo             |  0m29.75s |  907012 ko || +0m00.23s ||     16336 ko |   +0.77% |         +1.80%
 0m28.92s |  969060 ko | algebra/ssrnum.vo                |  0m28.51s |  946828 ko || +0m00.41s ||     22232 ko |   +1.43% |         +2.34%
 0m28.37s | 1169104 ko | algebra/matrix.vo                |  0m27.59s | 1130592 ko || +0m00.78s ||     38512 ko |   +2.82% |         +3.40%
 0m22.84s |  813716 ko | algebra/mxpoly.vo                |  0m22.70s |  793936 ko || +0m00.14s ||     19780 ko |   +0.61% |         +2.49%
 0m20.48s | 1013132 ko | character/classfun.vo            |  0m19.88s |  995312 ko || +0m00.60s ||     17820 ko |   +3.01% |         +1.79%
 0m19.18s |  817356 ko | solvable/extraspecial.vo         |  0m18.99s |  804348 ko || +0m00.19s ||     13008 ko |   +1.00% |         +1.61%
 0m17.16s |  873712 ko | character/inertia.vo             |  0m16.67s |  866144 ko || +0m00.49s ||      7568 ko |   +2.93% |         +0.87%
 0m15.78s |  684240 ko | solvable/burnside_app.vo         |  0m15.78s |  672396 ko || +0m00.00s ||     11844 ko |   +0.00% |         +1.76%
 0m15.64s |  954932 ko | field/finfield.vo                |  0m14.71s |  892680 ko || +0m00.93s ||     62252 ko |   +6.32% |         +6.97%
 0m14.17s |  739276 ko | algebra/poly.vo                  |  0m13.68s |  725580 ko || +0m00.49s ||     13696 ko |   +3.58% |         +1.88%
 0m13.81s |  877372 ko | field/closed_field.vo            |  0m13.49s |  859436 ko || +0m00.32s ||     17936 ko |   +2.37% |         +2.08%
 0m13.13s |  863688 ko | character/integral_char.vo       |  0m12.87s |  850048 ko || +0m00.26s ||     13640 ko |   +2.02% |         +1.60%
 0m12.78s |  632964 ko | algebra/polydiv.vo               |  0m12.21s |  623468 ko || +0m00.57s ||      9496 ko |   +4.66% |         +1.52%
 0m12.75s |  860996 ko | field/algnum.vo                  |  0m12.35s |  846668 ko || +0m00.40s ||     14328 ko |   +3.23% |         +1.69%
 0m12.74s |  743324 ko | algebra/finalg.vo                |  0m11.76s |  723856 ko || +0m00.98s ||     19468 ko |   +8.33% |         +2.68%
 0m12.72s |  894404 ko | field/algC.vo                    |  0m12.22s |  866924 ko || +0m00.50s ||     27480 ko |   +4.09% |         +3.16%
 0m12.36s |  653256 ko | solvable/maximal.vo              |  0m12.10s |  640040 ko || +0m00.26s ||     13216 ko |   +2.14% |         +2.06%
 0m11.58s |  605088 ko | fingroup/gproduct.vo             |  0m11.52s |  604548 ko || +0m00.06s ||       540 ko |   +0.52% |         +0.08%
 0m11.56s |  632840 ko | solvable/hall.vo                 |  0m11.51s |  623724 ko || +0m00.05s ||      9116 ko |   +0.43% |         +1.46%
 0m11.31s |  843304 ko | character/vcharacter.vo          |  0m11.03s |  833328 ko || +0m00.28s ||      9976 ko |   +2.53% |         +1.19%
 0m11.06s |  802576 ko | algebra/interval.vo              |  0m10.80s |  774576 ko || +0m00.26s ||     28000 ko |   +2.40% |         +3.61%
 0m11.01s |  740576 ko | character/mxabelem.vo            |  0m10.85s |  724704 ko || +0m00.16s ||     15872 ko |   +1.47% |         +2.19%
 0m10.82s |  783464 ko | algebra/archimedean.vo           |  0m10.51s |  767292 ko || +0m00.31s ||     16172 ko |   +2.94% |         +2.10%
 0m10.25s |  644992 ko | solvable/abelian.vo              |  0m10.12s |  633776 ko || +0m00.13s ||     11216 ko |   +1.28% |         +1.76%
 0m09.35s |  771592 ko | algebra/intdiv.vo                |  0m09.14s |  757860 ko || +0m00.21s ||     13732 ko |   +2.29% |         +1.81%
 0m09.18s |  758724 ko | field/falgebra.vo                |  0m08.67s |  727404 ko || +0m00.51s ||     31320 ko |   +5.88% |         +4.30%
 0m09.04s |  568772 ko | fingroup/action.vo               |  0m09.00s |  568372 ko || +0m00.04s ||       400 ko |   +0.44% |         +0.07%
 0m08.82s |  823296 ko | field/qfpoly.vo                  |  0m08.43s |  804164 ko || +0m00.39s ||     19132 ko |   +4.62% |         +2.37%
 0m08.75s |  737028 ko | algebra/rat.vo                   |  0m08.70s |  743532 ko || +0m00.05s ||     -6504 ko |   +0.57% |         -0.87%
 0m08.73s |  740488 ko | algebra/ssrint.vo                |  0m08.50s |  727008 ko || +0m00.23s ||     13480 ko |   +2.70% |         +1.85%
 0m08.43s |  760312 ko | algebra/qpoly.vo                 |  0m08.04s |  727636 ko || +0m00.39s ||     32676 ko |   +4.85% |         +4.49%
 0m07.35s |  564516 ko | ssreflect/seq.vo                 |  0m07.38s |  568224 ko || -0m00.03s ||     -3708 ko |   -0.40% |         -0.65%
 0m06.76s |  574132 ko | fingroup/fingroup.vo             |  0m06.69s |  570632 ko || +0m00.07s ||      3500 ko |   +1.04% |         +0.61%
 0m06.41s |  601616 ko | solvable/alt.vo                  |  0m06.26s |  592612 ko || +0m00.15s ||      9004 ko |   +2.39% |         +1.51%
 0m06.37s |  588872 ko | solvable/center.vo               |  0m06.23s |  583660 ko || +0m00.14s ||      5212 ko |   +2.24% |         +0.89%
 0m06.05s |  531764 ko | ssreflect/finset.vo              |  0m06.09s |  529748 ko || -0m00.04s ||      2016 ko |   -0.65% |         +0.38%
 0m05.95s |  700628 ko | algebra/polyXY.vo                |  0m05.70s |  684032 ko || +0m00.25s ||     16596 ko |   +4.38% |         +2.42%
 0m05.67s |  587352 ko | solvable/jordanholder.vo         |  0m05.55s |  580404 ko || +0m00.12s ||      6948 ko |   +2.16% |         +1.19%
 0m05.67s |  595048 ko | solvable/pgroup.vo               |  0m05.53s |  585596 ko || +0m00.14s ||      9452 ko |   +2.53% |         +1.61%
 0m05.61s |  521140 ko | fingroup/morphism.vo             |  0m05.60s |  520548 ko || +0m00.01s ||       592 ko |   +0.17% |         +0.11%
 0m05.58s |  614176 ko | solvable/finmodule.vo            |  0m05.49s |  609488 ko || +0m00.09s ||      4688 ko |   +1.63% |         +0.76%
 0m05.46s |  570764 ko | ssreflect/bigop.vo               |  0m05.53s |  572428 ko || -0m00.07s ||     -1664 ko |   -1.26% |         -0.29%
 0m05.43s |  592584 ko | solvable/frobenius.vo            |  0m05.32s |  589796 ko || +0m00.11s ||      2788 ko |   +2.06% |         +0.47%
 0m05.16s |  601728 ko | solvable/cyclic.vo               |  0m05.03s |  586352 ko || +0m00.13s ||     15376 ko |   +2.58% |         +2.62%
 0m05.14s |  766300 ko | field/cyclotomic.vo              |  0m04.92s |  753308 ko || +0m00.22s ||     12992 ko |   +4.47% |         +1.72%
 0m04.61s |  617912 ko | algebra/ring_quotient.vo         |  0m04.42s |  618596 ko || +0m00.19s ||      -684 ko |   +4.29% |         -0.11%
 0m04.45s |  614800 ko | algebra/countalg.vo              |  0m04.23s |  609788 ko || +0m00.22s ||      5012 ko |   +5.20% |         +0.82%
 0m04.43s |  584912 ko | solvable/gseries.vo              |  0m04.37s |  578564 ko || +0m00.06s ||      6348 ko |   +1.37% |         +1.09%
 0m04.40s |  554392 ko | ssreflect/fintype.vo             |  0m04.39s |  554528 ko || +0m00.01s ||      -136 ko |   +0.22% |         -0.02%
 0m04.38s |  519108 ko | fingroup/quotient.vo             |  0m04.36s |  519104 ko || +0m00.02s ||         4 ko |   +0.45% |         +0.00%
 0m04.36s |  587216 ko | solvable/sylow.vo                |  0m04.25s |  581292 ko || +0m00.11s ||      5924 ko |   +2.58% |         +1.01%
 0m04.02s |  508912 ko | ssreflect/prime.vo               |  0m04.03s |  508648 ko || -0m00.01s ||       264 ko |   -0.24% |         +0.05%
 0m03.95s |  829532 ko | all/all.vo                       |  0m03.78s |  825420 ko || +0m00.17s ||      4112 ko |   +4.49% |         +0.49%
 0m03.78s |  586240 ko | solvable/nilpotent.vo            |  0m03.66s |  580548 ko || +0m00.12s ||      5692 ko |   +3.27% |         +0.98%
 0m03.22s |  589320 ko | algebra/fraction.vo              |  0m02.99s |  581944 ko || +0m00.23s ||      7376 ko |   +7.69% |         +1.26%
 0m03.18s |  491296 ko | ssreflect/path.vo                |  0m03.18s |  490648 ko || +0m00.00s ||       648 ko |   +0.00% |         +0.13%
 0m02.84s |  616320 ko | algebra/zmodp.vo                 |  0m02.69s |  613232 ko || +0m00.15s ||      3088 ko |   +5.57% |         +0.50%
 0m02.69s |  777968 ko | character/all_character.vo       |  0m02.50s |  765840 ko || +0m00.19s ||     12128 ko |   +7.59% |         +1.58%
 0m02.65s |  504856 ko | fingroup/automorphism.vo         |  0m02.61s |  504296 ko || +0m00.04s ||       560 ko |   +1.53% |         +0.11%
 0m02.63s |  761480 ko | field/all_field.vo               |  0m02.44s |  744824 ko || +0m00.19s ||     16656 ko |   +7.78% |         +2.23%
 0m02.59s |  723404 ko | algebra/all_algebra.vo           |  0m02.45s |  719380 ko || +0m00.14s ||      4024 ko |   +5.71% |         +0.55%
 0m02.57s |  505188 ko | ssreflect/ssrnat.vo              |  0m02.61s |  507092 ko || -0m00.04s ||     -1904 ko |   -1.53% |         -0.37%
 0m02.49s |  517212 ko | fingroup/perm.vo                 |  0m02.55s |  517008 ko || -0m00.06s ||       204 ko |   -2.35% |         +0.03%
 0m02.33s |  587768 ko | solvable/primitive_action.vo     |  0m02.21s |  581520 ko || +0m00.12s ||      6248 ko |   +5.42% |         +1.07%
 0m02.26s |  512876 ko | solvable/gfunctor.vo             |  0m02.24s |  512204 ko || +0m00.02s ||       672 ko |   +0.89% |         +0.13%
 0m02.26s |  492608 ko | ssreflect/fingraph.vo            |  0m02.24s |  492272 ko || +0m00.02s ||       336 ko |   +0.89% |         +0.06%
 0m02.16s |  507156 ko | ssreflect/binomial.vo            |  0m02.15s |  507176 ko || +0m00.01s ||       -20 ko |   +0.46% |         -0.00%
 0m02.15s |  675464 ko | solvable/all_solvable.vo         |  0m01.99s |  647796 ko || +0m00.16s ||     27668 ko |   +8.04% |         +4.27%
 0m02.03s |  513344 ko | ssreflect/choice.vo              |  0m02.02s |  513216 ko || +0m00.01s ||       128 ko |   +0.49% |         +0.02%
 0m01.81s |  489124 ko | ssreflect/div.vo                 |  0m01.79s |  488792 ko || +0m00.02s ||       332 ko |   +1.11% |         +0.06%
 0m01.55s |  512768 ko | solvable/commutator.vo           |  0m01.56s |  512228 ko || -0m00.01s ||       540 ko |   -0.64% |         +0.10%
 0m01.50s |  562284 ko | ssreflect/all_ssreflect.vo       |  0m01.48s |  562468 ko || +0m00.02s ||      -184 ko |   +1.35% |         -0.03%
 0m01.42s |  498780 ko | ssreflect/finfun.vo              |  0m01.43s |  498760 ko || -0m00.01s ||        20 ko |   -0.69% |         +0.00%
 0m01.41s |  492864 ko | ssreflect/eqtype.vo              |  0m01.48s |  494652 ko || -0m00.07s ||     -1788 ko |   -4.72% |         -0.36%
 0m01.41s |  502108 ko | ssreflect/tuple.vo               |  0m01.35s |  501936 ko || +0m00.06s ||       172 ko |   +4.44% |         +0.03%
 0m01.32s |  501808 ko | ssreflect/generic_quotient.vo    |  0m01.35s |  503728 ko || -0m00.03s ||     -1920 ko |   -2.22% |         -0.38%
 0m00.78s |  501228 ko | fingroup/presentation.vo         |  0m00.78s |  500652 ko || +0m00.00s ||       576 ko |   +0.00% |         +0.11%
 0m00.54s |  442428 ko | ssreflect/ssrAC.vo               |  0m00.58s |  442304 ko || -0m00.04s ||       124 ko |   -6.89% |         +0.02%
 0m00.45s |  342432 ko | fingroup/all_fingroup.vo         |  0m00.43s |  341468 ko || +0m00.02s ||       964 ko |   +4.65% |         +0.28%
 0m00.16s |  173792 ko | ssreflect/ssrbool.vo             |  0m00.14s |  172568 ko || +0m00.02s ||      1224 ko |  +14.28% |         +0.70%
 0m00.11s |  144840 ko | ssreflect/ssrfun.vo              |  0m00.11s |  145824 ko || +0m00.00s ||      -984 ko |   +0.00% |         -0.67%
 0m00.08s |  122204 ko | ssreflect/ssreflect.vo           |  0m00.10s |  121924 ko || -0m00.02s ||       280 ko |  -20.00% |         +0.22%
 0m00.06s |  109744 ko | ssreflect/ssrnotations.vo        |  0m00.07s |  109796 ko || -0m00.01s ||       -52 ko |  -14.28% |         -0.04%
 0m00.05s |  106652 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  106348 ko || -0m00.01s ||       304 ko |  -16.66% |         +0.28%
```

**Comment by pi8027** [comment]
`rewrite linearB` and `rewrite linearN` are still very slow in a few places.

**Comment by pi8027** [comment]
New bench (https://github.com/math-comp/math-comp/compare/c4e22b00..95dab20e):
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
16m16.98s | 1781168 ko | Total Time / Peak Mem            | 15m40.67s | 1778892 ko || +0m36.31s ||      2276 ko |   +3.86% |         +0.12%
-------------------------------------------------------------------------------------------------------------------------------------------
 0m41.50s | 1039080 ko | character/mxrepresentation.vo    |  0m33.67s |  973456 ko || +0m07.83s ||     65624 ko |  +23.25% |         +6.74%
 0m45.91s | 1365012 ko | algebra/ssralg.vo                |  0m38.97s | 1256048 ko || +0m06.94s ||    108964 ko |  +17.80% |         +8.67%
 0m34.20s | 1290540 ko | field/algebraics_fundamentals.vo |  0m32.08s | 1220184 ko || +0m02.12s ||     70356 ko |   +6.60% |         +5.76%
 0m25.85s |  982524 ko | character/character.vo           |  0m23.77s |  952260 ko || +0m02.08s ||     30264 ko |   +8.75% |         +3.17%
 0m22.01s |  892048 ko | field/galois.vo                  |  0m23.12s |  875696 ko || -0m01.11s ||     16352 ko |   -4.80% |         +1.86%
 0m17.33s |  922780 ko | field/fieldext.vo                |  0m15.54s |  865960 ko || +0m01.79s ||     56820 ko |  +11.51% |         +6.56%
 0m15.43s |  779568 ko | algebra/mxalgebra.vo             |  0m13.57s |  782344 ko || +0m01.86s ||     -2776 ko |  +13.70% |         -0.35%
 0m11.71s |  787024 ko | algebra/vector.vo                |  0m10.68s |  756924 ko || +0m01.03s ||     30100 ko |   +9.64% |         +3.97%
 2m17.31s | 1781168 ko | ssreflect/order.vo               |  2m17.22s | 1778892 ko || +0m00.09s ||      2276 ko |   +0.06% |         +0.12%
 0m29.84s |  923288 ko | solvable/extremal.vo             |  0m29.78s |  907036 ko || +0m00.06s ||     16252 ko |   +0.20% |         +1.79%
 0m28.95s |  966776 ko | algebra/ssrnum.vo                |  0m28.43s |  947684 ko || +0m00.52s ||     19092 ko |   +1.82% |         +2.01%
 0m28.38s | 1170580 ko | algebra/matrix.vo                |  0m27.41s | 1132552 ko || +0m00.97s ||     38028 ko |   +3.53% |         +3.35%
 0m22.85s |  815480 ko | algebra/mxpoly.vo                |  0m22.63s |  792168 ko || +0m00.22s ||     23312 ko |   +0.97% |         +2.94%
 0m20.49s | 1005260 ko | character/classfun.vo            |  0m19.80s |  995420 ko || +0m00.69s ||      9840 ko |   +3.48% |         +0.98%
 0m19.20s |  820232 ko | solvable/extraspecial.vo         |  0m19.03s |  805528 ko || +0m00.17s ||     14704 ko |   +0.89% |         +1.82%
 0m16.87s |  882248 ko | character/inertia.vo             |  0m16.72s |  866068 ko || +0m00.15s ||     16180 ko |   +0.89% |         +1.86%
 0m15.63s |  942548 ko | field/finfield.vo                |  0m14.74s |  894736 ko || +0m00.89s ||     47812 ko |   +6.03% |         +5.34%
 0m15.60s |  685860 ko | solvable/burnside_app.vo         |  0m15.63s |  674236 ko || -0m00.03s ||     11624 ko |   -0.19% |         +1.72%
 0m14.17s |  736928 ko | algebra/poly.vo                  |  0m13.74s |  725444 ko || +0m00.43s ||     11484 ko |   +3.12% |         +1.58%
 0m13.79s |  880060 ko | field/closed_field.vo            |  0m13.52s |  861672 ko || +0m00.27s ||     18388 ko |   +1.99% |         +2.13%
 0m13.20s |  870068 ko | character/integral_char.vo       |  0m12.92s |  851936 ko || +0m00.28s ||     18132 ko |   +2.16% |         +2.12%
 0m12.82s |  858824 ko | field/algnum.vo                  |  0m12.36s |  850708 ko || +0m00.46s ||      8116 ko |   +3.72% |         +0.95%
 0m12.80s |  744988 ko | algebra/finalg.vo                |  0m11.87s |  721760 ko || +0m00.93s ||     23228 ko |   +7.83% |         +3.21%
 0m12.66s |  632900 ko | algebra/polydiv.vo               |  0m12.11s |  623420 ko || +0m00.55s ||      9480 ko |   +4.54% |         +1.52%
 0m12.64s |  872752 ko | field/algC.vo                    |  0m12.33s |  866844 ko || +0m00.31s ||      5908 ko |   +2.51% |         +0.68%
 0m12.27s |  762320 ko | field/separable.vo               |  0m11.77s |  737808 ko || +0m00.50s ||     24512 ko |   +4.24% |         +3.32%
 0m12.25s |  657356 ko | solvable/maximal.vo              |  0m12.04s |  639984 ko || +0m00.21s ||     17372 ko |   +1.74% |         +2.71%
 0m11.56s |  604876 ko | fingroup/gproduct.vo             |  0m11.62s |  604364 ko || -0m00.06s ||       512 ko |   -0.51% |         +0.08%
 0m11.56s |  632812 ko | solvable/hall.vo                 |  0m11.47s |  621644 ko || +0m00.09s ||     11168 ko |   +0.78% |         +1.79%
 0m11.41s |  845488 ko | character/vcharacter.vo          |  0m11.03s |  837240 ko || +0m00.38s ||      8248 ko |   +3.44% |         +0.98%
 0m11.01s |  802640 ko | algebra/interval.vo              |  0m10.82s |  778100 ko || +0m00.19s ||     24540 ko |   +1.75% |         +3.15%
 0m10.91s |  743200 ko | character/mxabelem.vo            |  0m10.86s |  723240 ko || +0m00.05s ||     19960 ko |   +0.46% |         +2.75%
 0m10.77s |  780364 ko | algebra/archimedean.vo           |  0m10.53s |  766312 ko || +0m00.24s ||     14052 ko |   +2.27% |         +1.83%
 0m10.25s |  644892 ko | solvable/abelian.vo              |  0m10.12s |  633832 ko || +0m00.13s ||     11060 ko |   +1.28% |         +1.74%
 0m09.30s |  771652 ko | algebra/intdiv.vo                |  0m09.11s |  757828 ko || +0m00.19s ||     13824 ko |   +2.08% |         +1.82%
 0m09.25s |  770796 ko | field/falgebra.vo                |  0m08.64s |  727492 ko || +0m00.61s ||     43304 ko |   +7.06% |         +5.95%
 0m08.98s |  570788 ko | fingroup/action.vo               |  0m09.03s |  568448 ko || -0m00.05s ||      2340 ko |   -0.55% |         +0.41%
 0m08.78s |  824448 ko | field/qfpoly.vo                  |  0m08.41s |  802364 ko || +0m00.37s ||     22084 ko |   +4.39% |         +2.75%
 0m08.75s |  737240 ko | algebra/rat.vo                   |  0m08.64s |  743608 ko || +0m00.11s ||     -6368 ko |   +1.27% |         -0.85%
 0m08.70s |  740376 ko | algebra/ssrint.vo                |  0m08.47s |  728724 ko || +0m00.23s ||     11652 ko |   +2.71% |         +1.59%
 0m08.42s |  766628 ko | algebra/qpoly.vo                 |  0m08.01s |  727504 ko || +0m00.41s ||     39124 ko |   +5.11% |         +5.37%
 0m07.31s |  564460 ko | ssreflect/seq.vo                 |  0m07.32s |  564496 ko || -0m00.01s ||       -36 ko |   -0.13% |         -0.00%
 0m06.71s |  572716 ko | fingroup/fingroup.vo             |  0m06.73s |  570620 ko || -0m00.02s ||      2096 ko |   -0.29% |         +0.36%
 0m06.38s |  600340 ko | solvable/alt.vo                  |  0m06.28s |  594120 ko || +0m00.10s ||      6220 ko |   +1.59% |         +1.04%
 0m06.34s |  588820 ko | solvable/center.vo               |  0m06.25s |  583696 ko || +0m00.09s ||      5124 ko |   +1.43% |         +0.87%
 0m06.04s |  531816 ko | ssreflect/finset.vo              |  0m06.12s |  529692 ko || -0m00.08s ||      2124 ko |   -1.30% |         +0.40%
 0m05.98s |  700572 ko | algebra/polyXY.vo                |  0m05.74s |  684032 ko || +0m00.24s ||     16540 ko |   +4.18% |         +2.41%
 0m05.71s |  587232 ko | solvable/jordanholder.vo         |  0m05.61s |  580044 ko || +0m00.10s ||      7188 ko |   +1.78% |         +1.23%
 0m05.67s |  594960 ko | solvable/pgroup.vo               |  0m05.54s |  585756 ko || +0m00.13s ||      9204 ko |   +2.34% |         +1.57%
 0m05.63s |  612032 ko | solvable/finmodule.vo            |  0m05.50s |  609312 ko || +0m00.13s ||      2720 ko |   +2.36% |         +0.44%
 0m05.54s |  520952 ko | fingroup/morphism.vo             |  0m05.56s |  524680 ko || -0m00.02s ||     -3728 ko |   -0.35% |         -0.71%
 0m05.48s |  572936 ko | ssreflect/bigop.vo               |  0m05.48s |  572212 ko || +0m00.00s ||       724 ko |   +0.00% |         +0.12%
 0m05.41s |  592608 ko | solvable/frobenius.vo            |  0m05.33s |  589544 ko || +0m00.08s ||      3064 ko |   +1.50% |         +0.51%
 0m05.17s |  766512 ko | field/cyclotomic.vo              |  0m04.89s |  753356 ko || +0m00.28s ||     13156 ko |   +5.72% |         +1.74%
 0m05.14s |  601692 ko | solvable/cyclic.vo               |  0m05.03s |  586460 ko || +0m00.11s ||     15232 ko |   +2.18% |         +2.59%
 0m04.67s |  617860 ko | algebra/ring_quotient.vo         |  0m04.41s |  616516 ko || +0m00.26s ||      1344 ko |   +5.89% |         +0.21%
 0m04.48s |  612848 ko | algebra/countalg.vo              |  0m04.25s |  609532 ko || +0m00.23s ||      3316 ko |   +5.41% |         +0.54%
 0m04.44s |  584844 ko | solvable/gseries.vo              |  0m04.33s |  578568 ko || +0m00.11s ||      6276 ko |   +2.54% |         +1.08%
 0m04.42s |  554260 ko | ssreflect/fintype.vo             |  0m04.38s |  555852 ko || +0m00.04s ||     -1592 ko |   +0.91% |         -0.28%
 0m04.35s |  587080 ko | solvable/sylow.vo                |  0m04.24s |  581340 ko || +0m00.11s ||      5740 ko |   +2.59% |         +0.98%
 0m04.33s |  519240 ko | fingroup/quotient.vo             |  0m04.35s |  519132 ko || -0m00.02s ||       108 ko |   -0.45% |         +0.02%
 0m04.02s |  509060 ko | ssreflect/prime.vo               |  0m03.99s |  508612 ko || +0m00.03s ||       448 ko |   +0.75% |         +0.08%
 0m03.98s |  831840 ko | all/all.vo                       |  0m03.79s |  825464 ko || +0m00.19s ||      6376 ko |   +5.01% |         +0.77%
 0m03.74s |  586356 ko | solvable/nilpotent.vo            |  0m03.68s |  580692 ko || +0m00.06s ||      5664 ko |   +1.63% |         +0.97%
 0m03.20s |  589360 ko | algebra/fraction.vo              |  0m02.99s |  582224 ko || +0m00.21s ||      7136 ko |   +7.02% |         +1.22%
 0m03.16s |  491212 ko | ssreflect/path.vo                |  0m03.18s |  490736 ko || -0m00.02s ||       476 ko |   -0.62% |         +0.09%
 0m02.86s |  614096 ko | algebra/zmodp.vo                 |  0m02.68s |  613164 ko || +0m00.18s ||       932 ko |   +6.71% |         +0.15%
 0m02.70s |  778140 ko | character/all_character.vo       |  0m02.53s |  765844 ko || +0m00.17s ||     12296 ko |   +6.71% |         +1.60%
 0m02.64s |  761408 ko | field/all_field.vo               |  0m02.44s |  744856 ko || +0m00.20s ||     16552 ko |   +8.19% |         +2.22%
 0m02.64s |  504724 ko | fingroup/automorphism.vo         |  0m02.66s |  506300 ko || -0m00.02s ||     -1576 ko |   -0.75% |         -0.31%
 0m02.61s |  723300 ko | algebra/all_algebra.vo           |  0m02.47s |  719732 ko || +0m00.14s ||      3568 ko |   +5.66% |         +0.49%
 0m02.56s |  505268 ko | ssreflect/ssrnat.vo              |  0m02.58s |  505144 ko || -0m00.02s ||       124 ko |   -0.77% |         +0.02%
 0m02.51s |  517044 ko | fingroup/perm.vo                 |  0m02.53s |  519064 ko || -0m00.02s ||     -2020 ko |   -0.79% |         -0.38%
 0m02.31s |  587688 ko | solvable/primitive_action.vo     |  0m02.24s |  581376 ko || +0m00.07s ||      6312 ko |   +3.12% |         +1.08%
 0m02.25s |  492472 ko | ssreflect/fingraph.vo            |  0m02.26s |  495976 ko || -0m00.01s ||     -3504 ko |   -0.44% |         -0.70%
 0m02.23s |  512700 ko | solvable/gfunctor.vo             |  0m02.25s |  512484 ko || -0m00.02s ||       216 ko |   -0.88% |         +0.04%
 0m02.21s |  667228 ko | solvable/all_solvable.vo         |  0m01.98s |  647660 ko || +0m00.23s ||     19568 ko |  +11.61% |         +3.02%
 0m02.18s |  510892 ko | ssreflect/binomial.vo            |  0m02.16s |  507084 ko || +0m00.02s ||      3808 ko |   +0.92% |         +0.75%
 0m02.01s |  515404 ko | ssreflect/choice.vo              |  0m02.01s |  513188 ko || +0m00.00s ||      2216 ko |   +0.00% |         +0.43%
 0m01.81s |  489108 ko | ssreflect/div.vo                 |  0m01.80s |  490536 ko || +0m00.01s ||     -1428 ko |   +0.55% |         -0.29%
 0m01.57s |  512936 ko | solvable/commutator.vo           |  0m01.59s |  512384 ko || -0m00.02s ||       552 ko |   -1.25% |         +0.10%
 0m01.50s |  562032 ko | ssreflect/all_ssreflect.vo       |  0m01.50s |  562392 ko || +0m00.00s ||      -360 ko |   +0.00% |         -0.06%
 0m01.43s |  498736 ko | ssreflect/finfun.vo              |  0m01.43s |  500412 ko || +0m00.00s ||     -1676 ko |   +0.00% |         -0.33%
 0m01.42s |  494564 ko | ssreflect/eqtype.vo              |  0m01.45s |  494300 ko || -0m00.03s ||       264 ko |   -2.06% |         +0.05%
 0m01.39s |  503876 ko | ssreflect/tuple.vo               |  0m01.40s |  501968 ko || -0m00.01s ||      1908 ko |   -0.71% |         +0.38%
 0m01.37s |  503708 ko | ssreflect/generic_quotient.vo    |  0m01.34s |  501864 ko || +0m00.03s ||      1844 ko |   +2.23% |         +0.36%
 0m00.78s |  501208 ko | fingroup/presentation.vo         |  0m00.77s |  500572 ko || +0m00.01s ||       636 ko |   +1.29% |         +0.12%
 0m00.55s |  442724 ko | ssreflect/ssrAC.vo               |  0m00.54s |  442336 ko || +0m00.01s ||       388 ko |   +1.85% |         +0.08%
 0m00.43s |  341864 ko | fingroup/all_fingroup.vo         |  0m00.43s |  342200 ko || +0m00.00s ||      -336 ko |   +0.00% |         -0.09%
 0m00.13s |  177984 ko | ssreflect/ssrbool.vo             |  0m00.14s |  172832 ko || -0m00.01s ||      5152 ko |   -7.14% |         +2.98%
 0m00.08s |  145556 ko | ssreflect/ssrfun.vo              |  0m00.09s |  143844 ko || -0m00.01s ||      1712 ko |  -11.11% |         +1.19%
 0m00.07s |  123088 ko | ssreflect/ssreflect.vo           |  0m00.11s |  123244 ko || -0m00.04s ||      -156 ko |  -36.36% |         -0.12%
 0m00.07s |  105428 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  105124 ko || +0m00.01s ||       304 ko |  +16.66% |         +0.28%
 0m00.06s |  109696 ko | ssreflect/ssrnotations.vo        |  0m00.05s |  109208 ko || +0m00.01s ||       488 ko |  +19.99% |         +0.44%
```

**Comment by pi8027** [comment]
This PR is ready and looking for reviewers. @CohenCyril @proux01 @Tragicus @affeldt-aist

File: mathcomp/algebra/ssralg.v [hunk 16]
```diff
@@ -2105,88 +2257,199 @@ Proof. by rewrite rmorphXn /= rmorphN1. Qed.
...
+HB.mixin Record isSemiScalable
+    (R S : semiRingType) (f : {rmorphism R -> S})
+    (U : lSemiModType R) (V : nmodType) (s : S -> V -> V) (g : U -> V) := {
+  semi_linear_subproof : scalable_for (f \; s) g;
+}.
+
+HB.structure Definition Semilinear
+    (R S : semiRingType) (f : {rmorphism R -> S})
+    (U : lSemiModType R) (V : nmodType) (s : S -> V -> V) :=
+  {g of @Additive U V g & isSemiScalable R S f U V s g}.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2401]: I'm making this change to see what happens.

File: mathcomp/algebra/ssralg.v [hunk 17]
```diff
@@ -2105,88 +2257,199 @@ Proof. by rewrite rmorphXn /= rmorphN1. Qed.
...
+
+HB.factory Record isScalable (R : ringType) (U : lmodType R) (V : zmodType)
     (s : R -> V -> V) (f : U -> V) := {
   linear_subproof : scalable_for s f;
 }.
+HB.builders Context R U V s f of isScalable R U V s f.
+(* TODO: remove idR below (math-comp/hierarchy-builder#432) *)
+Definition idR : {rmorphism R -> R} := idfun.
+HB.instance Definition _ :=
+  isSemiScalable.Build R R idR U V s f linear_subproof.
```
Comment (Tragicus) [inline mathcomp/algebra/ssralg.v]: `idfun` works just fine for me, so I guess the HB issue has been patched. Given what you do in other files, I guess this makes `isScalable` unusable, which is a shame, so it is great if we can already remove `idR`.

**Review by Tragicus — COMMENTED** [review]
I did not look deeply into it yet, but here are a few things I noticed.

File: mathcomp/algebra/ssralg.v [hunk 18]
```diff
@@ -1677,6 +1757,48 @@ Section ClosedPredicates.
...
+
+Lemma signrZK n : @involutive V ( *:%R ((-1) ^+ n)).
+Proof. by move=> u; rewrite scalerA -expr2 sqrr_sign scale1r. Qed.
+
+Section ClosedPredicates.
+
+Variable S : {pred V}.
+
 Definition linear_closed := forall a, {in S &, forall u v, a *: u + v \in S}.
 Definition submod_closed := 0 \in S /\ linear_closed.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:1797]: Generalizing these predicates to take a semi-module instance makes the following coercions non-uniform. So, I prefer to keep them as is.
```coq
Coercion linear_closedB : linear_closed >-> subr_2closed.
Coercion submod_closedB : submod_closed >-> zmod_closed.
```

File: mathcomp/algebra/ssralg.v [hunk 19]
```diff
@@ -1720,27 +1865,32 @@ HB.instance Definition _ (V : zmodType) := Zmodule.on V^o.
...
 
-Section ClosedPredicates.
+End LSemiAlgebraTheory.
+
+Section LalgebraTheory.
 
-Variable S : {pred A}.
+Variables (R : ringType) (A : lalgType R) (S : {pred A}).
 
 Definition subalg_closed := [/\ 1 \in S, linear_closed S & mulr_2closed S].
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:1889]: Same here.

File: mathcomp/algebra/ssralg.v [hunk 20]
```diff
@@ -1720,27 +1865,32 @@ HB.instance Definition _ (V : zmodType) := Zmodule.on V^o.
...
+Lemma mulr_algl (a : R) (x : A) : (a *: 1) * x = a *: x.
 Proof. by rewrite -scalerAl mul1r. Qed.
 
-Section ClosedPredicates.
+End LSemiAlgebraTheory.
+
+Section LalgebraTheory.
 
-Variable S : {pred A}.
+Variables (R : ringType) (A : lalgType R) (S : {pred A}).
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:1887]: I'm fine with putting the section back.

File: mathcomp/algebra/ssralg.v [hunk 21]
```diff
@@ -2105,88 +2257,199 @@ Proof. by rewrite rmorphXn /= rmorphN1. Qed.
...
+  {g of @Additive U V g & isSemiScalable R S f U V s g}.
+
+Module Linear.
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.type instead.")]
+Notation type := (Semilinear.type idfun).
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.copy instead.")]
+Notation copy T C := (Semilinear.copy T C).
+#[deprecated(since="mathcomp 2.3.0", note="Use Semilinear.on instead.")]
+Notation on T := (Semilinear.on T).
+End Linear.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: I renamed `Semilinear` back to `Linear` and removed its new parameters in [ebb3e95](https://github.com/math-comp/math-comp/pull/1125/commits/ebb3e9544a868226ebfd7495d229a898e05c5bbc). If Cyril agrees with this change, it fixes the issue.

File: mathcomp/algebra/ssralg.v (hunk 17 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Same here.

**Comment by pi8027** [comment]
> I noticed that commit `993e0367` essentially changes `isScalable` to `isSemiScalable`, `isLinear` to `isSemiLinear` and `raddf*` to `linear*`. Do you know why the first two make things faster, and was there something else I missed?

While investigating the performance issue, I observed that a unification of N-module and Z-module instances triggers a suspicious recursive canonical structure resolution. I found that the latter (Z-module) instance came from the `isScalable` or `isLinear` factory, and replacing them with `isSemiScalable` and `isSemilinear` (to expose an N-module instance earlier) fixed the issue.

File: mathcomp/algebra/ssralg.v (hunk 20 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Done.

File: mathcomp/algebra/ssralg.v [hunk 22]
```diff
@@ -5386,6 +5877,11 @@ Notation "[ 'SubChoice_isSubLmodule' 'of' U 'by' <: ]" :=
   (SubChoice_isSubLmodule.Build _ _ _ U (submodClosedP _))
   (at level 0, format "[ 'SubChoice_isSubLmodule'  'of'  U  'by'  <: ]")
   : form_scope.
+Notation "[ 'SubSemiRing_SubLSemiModule_isSubLSemiAlgebra' 'of' U 'by' <: ]" :=
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:5833]: Almost fixed. There is still one line with a very long `format` string, but we should probably not break it further.

File: mathcomp/algebra/ssralg.v [hunk 23]
```diff
@@ -311,21 +359,30 @@ From mathcomp Require Import choice fintype finfun bigop prime binomial.
...
-(*                           is simply notation for k *: 1                    *)
+(*                   k%:A == the image of the scalar k in an L-semialgebra;   *)
+(*                           this is simply notation for k *: 1               *)
+(* [SubSemiRing_SubLSemiModule_isSubLSemiAlgebra of V by <:]                  *)
+(*                        == mixin axiom for a subType of an lSemiAlgType     *)
+(*                                                                            *)
+(*  * Lalgebra (left algebra, ring with scaling that associates on the left): *)
 (*        subalg_closed S <-> collective predicate S is closed under lalgType *)
 (*                           operations (1, a *: u + v and u * v in S)        *)
-(* [lalgMixin of V by <:] == mixin axiom for a subType of an lalgType         *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:324]: I removed this line since this notation doesn't seem to exist anymore.

File: mathcomp/algebra/ssralg.v [hunk 24]
```diff
@@ -376,50 +433,71 @@ From mathcomp Require Import choice fintype finfun bigop prime binomial.
...
-(*         linear_for s f <-> f is linear for the scaling operator s, i.e.,   *)
-(*                           f (a *: u + v) = s a (f u) + f v                 *)
-(*                           The range of f only needs to be a zmodType, but  *)
-(*                           s MUST be of the form described in the           *)
-(*                           scalable_for paragraph above for this predicate  *)
-(*                           to type check.                                   *)
-(*            lmorphism f <-> f is both additive and scalable                 *)
-(*                           This is in fact equivalent to linear f, although *)
-(*                           somewhat less convenient to prove.               *)
-(*      lmorphism_for s f <-> f is both additive and scalable for s           *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:408]: I removed these lines since these definitions do not seem to exist (even in MC1).

File: mathcomp/algebra/ssralg.v [hunk 25]
```diff
@@ -376,50 +433,71 @@ From mathcomp Require Import choice fintype finfun bigop prime binomial.
...
+(*                           lSemiModType R for the same semiRingType R       *)
+(*                        := {linear U -> V | *:%R}                           *)
+(*             {scalar U} == the interface type for (semi)scalar functions,   *)
+(*                           of type U -> R where U must be an lmodType R     *)
+(*                        := {linear U -> V | *%R}                            *)
 (*          (a *: u)%Rlin == transient forms that simplify to a *: u, a * u,  *)
 (*           (a * u)%Rlin    nu a *: u, and nu a * u, respectively, and are   *)
 (*       (a *:^nu u)%Rlin    created by rewriting with the linearZ lemma      *)
 (*        (a *^nu u)%Rlin    The forms allows the RHS of linearZ to be matched*)
 (*                           reliably, using the GRing.Scale.law structure.   *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:498]: These notations do not seem to exist (even in MC1).

File: mathcomp/algebra/ssralg.v [hunk 26]
```diff
@@ -433,22 +511,23 @@ From mathcomp Require Import choice fintype finfun bigop prime binomial.
...
 (*                                                                            *)
-(* * LRMorphism (linear ring morphisms, i.e., algebra morphisms):             *)
-(*           lrmorphism f <-> f of type A -> B is a linear Ring (Algebra)     *)
-(*                           morphism: f is both additive, multiplicative and *)
-(*                           scalable; A and B must both have lalgType R      *)
-(*                           canonical structures, for the same ringType R    *)
-(*     lrmorphism_for s f <-> f a linear Ring morphism for the scaling        *)
-(*                           operator s: f is additive, multiplicative and    *)
-(*                           scalable for s; A must be an lalgType R, but B   *)
-(*                           only needs to have a ringType structure          *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:446]: I removed these lines since these definitions do not seem to exist (even in MC1).

File: mathcomp/algebra/ssralg.v [hunk 27]
```diff
@@ -433,22 +511,23 @@ From mathcomp Require Import choice fintype finfun bigop prime binomial.
...
+(*                           be a semiRingType (resp. ringType), an           *)
+(*                           lSemiAlgType R (resp. lalgType R), and a         *)
+(*                           semiRingType (resp. ringType), respectively      *)
+(*    {lrmorphism A -> B} == the interface type for semialgebra (resp.        *)
+(*                           algebra) morphisms, where A and B must be        *)
+(*                           lSemiAlgType R (resp. lalgType R) for the same   *)
+(*                           semiRingType (resp. ringType) R                  *)
+(*                        := {lrmorphism A -> B | *:%R}                       *)
 (*  -> Linear and rmorphism properties do not need to be specialized for      *)
 (*     as we supply inheritance join instances in both directions.            *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:532]: This is probably not true since MC2. This is how it's done in MC1: https://github.com/math-comp/math-comp/blob/f5d5582a23bfd8b6a8822499cbd900e89b7cf904/mathcomp/algebra/ssralg.v#L2503-L2504

**Review by pi8027 — COMMENTED** [review]
I discovered a few issues in the header documentation of ssralg.

File: mathcomp/algebra/ssralg.v (hunk 27 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v:532]: If we declare both join instances even for a simple inheritance, we can probably solve the matching issue with morphism applications, e.g., `rewrite rmorphM` does not work for subterms of the form `Additive.sort _` that unfolds to a ring morphism application.

File: mathcomp/algebra/ssralg.v (hunk 16 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: During the MC meeting, we agreed to remove these parameters for the moment.

**Comment by pi8027** [comment]
The removal of the workarounds for the performance issues is available in this branch: https://github.com/math-comp/math-comp/tree/semi-modules-rm-perf-workarounds

I will redo the benchmark tomorrow evening.

**Comment by pi8027** [comment]
w/ workaround https://github.com/math-comp/math-comp/compare/1a734557..3676e514
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
16m14.72s | 1752552 ko | Total Time / Peak Mem            | 15m37.10s | 1743872 ko || +0m37.62s ||      8680 ko |   +4.01% |         +0.49%
-------------------------------------------------------------------------------------------------------------------------------------------
 0m47.60s | 1381572 ko | algebra/ssralg.vo                |  0m38.73s | 1270712 ko || +0m08.87s ||    110860 ko |  +22.90% |         +8.72%
 0m40.63s | 1022148 ko | character/mxrepresentation.vo    |  0m33.86s |  969680 ko || +0m06.77s ||     52468 ko |  +19.99% |         +5.41%
 0m25.84s |  979120 ko | character/character.vo           |  0m23.64s |  956452 ko || +0m02.20s ||     22668 ko |   +9.30% |         +2.37%
 0m34.07s | 1299032 ko | field/algebraics_fundamentals.vo |  0m32.21s | 1218348 ko || +0m01.86s ||     80684 ko |   +5.77% |         +6.62%
 0m17.14s |  910280 ko | field/fieldext.vo                |  0m15.43s |  861012 ko || +0m01.71s ||     49268 ko |  +11.08% |         +5.72%
 0m15.62s |  944704 ko | field/finfield.vo                |  0m14.61s |  892968 ko || +0m01.01s ||     51736 ko |   +6.91% |         +5.79%
 0m15.04s |  784436 ko | algebra/mxalgebra.vo             |  0m13.66s |  784520 ko || +0m01.38s ||       -84 ko |  +10.10% |         -0.01%
 0m12.64s |  732712 ko | algebra/finalg.vo                |  0m11.53s |  713968 ko || +0m01.11s ||     18744 ko |   +9.62% |         +2.62%
 2m16.53s | 1752552 ko | ssreflect/order.vo               |  2m16.34s | 1743872 ko || +0m00.19s ||      8680 ko |   +0.13% |         +0.49%
 0m29.86s |  934996 ko | solvable/extremal.vo             |  0m29.91s |  908956 ko || -0m00.05s ||     26040 ko |   -0.16% |         +2.86%
 0m28.86s |  964920 ko | algebra/ssrnum.vo                |  0m28.46s |  968632 ko || +0m00.40s ||     -3712 ko |   +1.40% |         -0.38%
 0m28.74s | 1159284 ko | algebra/matrix.vo                |  0m27.75s | 1124208 ko || +0m00.99s ||     35076 ko |   +3.56% |         +3.12%
 0m22.56s |  813868 ko | algebra/mxpoly.vo                |  0m22.49s |  802908 ko || +0m00.07s ||     10960 ko |   +0.31% |         +1.36%
 0m21.81s |  885600 ko | field/galois.vo                  |  0m21.38s |  866776 ko || +0m00.43s ||     18824 ko |   +2.01% |         +2.17%
 0m20.37s |  999384 ko | character/classfun.vo            |  0m19.86s |  999248 ko || +0m00.51s ||       136 ko |   +2.56% |         +0.01%
 0m19.17s |  818136 ko | solvable/extraspecial.vo         |  0m19.02s |  801440 ko || +0m00.15s ||     16696 ko |   +0.78% |         +2.08%
 0m16.89s |  874404 ko | character/inertia.vo             |  0m16.81s |  865936 ko || +0m00.08s ||      8468 ko |   +0.47% |         +0.97%
 0m16.04s |  700440 ko | solvable/burnside_app.vo         |  0m16.06s |  689060 ko || -0m00.02s ||     11380 ko |   -0.12% |         +1.65%
 0m14.05s |  737256 ko | algebra/poly.vo                  |  0m13.72s |  729612 ko || +0m00.33s ||      7644 ko |   +2.40% |         +1.04%
 0m13.81s |  877892 ko | field/closed_field.vo            |  0m13.55s |  846284 ko || +0m00.26s ||     31608 ko |   +1.91% |         +3.73%
 0m13.07s |  862404 ko | character/integral_char.vo       |  0m12.76s |  854160 ko || +0m00.31s ||      8244 ko |   +2.42% |         +0.96%
 0m12.72s |  636780 ko | algebra/polydiv.vo               |  0m12.09s |  623760 ko || +0m00.63s ||     13020 ko |   +5.21% |         +2.08%
 0m12.67s |  883480 ko | field/algC.vo                    |  0m12.22s |  862652 ko || +0m00.45s ||     20828 ko |   +3.68% |         +2.41%
 0m12.44s |  844436 ko | field/algnum.vo                  |  0m12.05s |  832276 ko || +0m00.39s ||     12160 ko |   +3.23% |         +1.46%
 0m12.38s |  657012 ko | solvable/maximal.vo              |  0m12.13s |  640412 ko || +0m00.25s ||     16600 ko |   +2.06% |         +2.59%
 0m12.08s |  743780 ko | field/separable.vo               |  0m11.77s |  725480 ko || +0m00.31s ||     18300 ko |   +2.63% |         +2.52%
 0m11.65s |  596932 ko | fingroup/gproduct.vo             |  0m11.64s |  596748 ko || +0m00.01s ||       184 ko |   +0.08% |         +0.03%
 0m11.49s |  635028 ko | solvable/hall.vo                 |  0m11.54s |  621932 ko || -0m00.05s ||     13096 ko |   -0.43% |         +2.10%
 0m11.33s |  780908 ko | algebra/vector.vo                |  0m10.62s |  765284 ko || +0m00.71s ||     15624 ko |   +6.68% |         +2.04%
 0m11.30s |  856068 ko | character/vcharacter.vo          |  0m10.99s |  831556 ko || +0m00.31s ||     24512 ko |   +2.82% |         +2.94%
 0m11.06s |  796864 ko | algebra/interval.vo              |  0m10.79s |  776396 ko || +0m00.27s ||     20468 ko |   +2.50% |         +2.63%
 0m10.90s |  742512 ko | character/mxabelem.vo            |  0m10.81s |  720172 ko || +0m00.09s ||     22340 ko |   +0.83% |         +3.10%
 0m10.80s |  795132 ko | algebra/archimedean.vo           |  0m10.47s |  775688 ko || +0m00.33s ||     19444 ko |   +3.15% |         +2.50%
 0m10.32s |  647108 ko | solvable/abelian.vo              |  0m10.22s |  633704 ko || +0m00.10s ||     13404 ko |   +0.97% |         +2.11%
 0m09.21s |  774336 ko | algebra/intdiv.vo                |  0m08.97s |  757896 ko || +0m00.24s ||     16440 ko |   +2.67% |         +2.16%
 0m09.19s |  757956 ko | field/falgebra.vo                |  0m08.61s |  721800 ko || +0m00.58s ||     36156 ko |   +6.73% |         +5.00%
 0m09.08s |  568232 ko | fingroup/action.vo               |  0m09.07s |  566284 ko || +0m00.01s ||      1948 ko |   +0.11% |         +0.34%
 0m08.76s |  731312 ko | algebra/rat.vo                   |  0m08.62s |  728840 ko || +0m00.14s ||      2472 ko |   +1.62% |         +0.33%
 0m08.74s |  753796 ko | algebra/ssrint.vo                |  0m08.49s |  735316 ko || +0m00.25s ||     18480 ko |   +2.94% |         +2.51%
 0m08.72s |  835556 ko | field/qfpoly.vo                  |  0m08.34s |  802712 ko || +0m00.38s ||     32844 ko |   +4.55% |         +4.09%
 0m08.36s |  756224 ko | algebra/qpoly.vo                 |  0m07.90s |  741864 ko || +0m00.46s ||     14360 ko |   +5.82% |         +1.93%
 0m07.37s |  566604 ko | ssreflect/seq.vo                 |  0m07.40s |  566504 ko || -0m00.03s ||       100 ko |   -0.40% |         +0.01%
 0m06.66s |  574756 ko | fingroup/fingroup.vo             |  0m06.75s |  574600 ko || -0m00.09s ||       156 ko |   -1.33% |         +0.02%
 0m06.39s |  602504 ko | solvable/alt.vo                  |  0m06.27s |  594124 ko || +0m00.12s ||      8380 ko |   +1.91% |         +1.41%
 0m06.37s |  589800 ko | solvable/center.vo               |  0m06.24s |  580896 ko || +0m00.13s ||      8904 ko |   +2.08% |         +1.53%
 0m06.16s |  533500 ko | ssreflect/finset.vo              |  0m06.15s |  531800 ko || +0m00.01s ||      1700 ko |   +0.16% |         +0.31%
 0m05.86s |  700456 ko | algebra/polyXY.vo                |  0m05.66s |  684160 ko || +0m00.20s ||     16296 ko |   +3.53% |         +2.38%
 0m05.67s |  596460 ko | solvable/pgroup.vo               |  0m05.56s |  585012 ko || +0m00.11s ||     11448 ko |   +1.97% |         +1.95%
 0m05.62s |  520936 ko | fingroup/morphism.vo             |  0m05.58s |  520496 ko || +0m00.04s ||       440 ko |   +0.71% |         +0.08%
 0m05.62s |  610160 ko | solvable/finmodule.vo            |  0m05.52s |  615168 ko || +0m00.10s ||     -5008 ko |   +1.81% |         -0.81%
 0m05.62s |  587188 ko | solvable/jordanholder.vo         |  0m05.60s |  580232 ko || +0m00.02s ||      6956 ko |   +0.35% |         +1.19%
 0m05.55s |  575068 ko | ssreflect/bigop.vo               |  0m05.58s |  572760 ko || -0m00.03s ||      2308 ko |   -0.53% |         +0.40%
 0m05.42s |  593800 ko | solvable/frobenius.vo            |  0m05.31s |  588996 ko || +0m00.11s ||      4804 ko |   +2.07% |         +0.81%
 0m05.17s |  601656 ko | solvable/cyclic.vo               |  0m05.05s |  585856 ko || +0m00.12s ||     15800 ko |   +2.37% |         +2.69%
 0m05.09s |  766304 ko | field/cyclotomic.vo              |  0m04.82s |  749064 ko || +0m00.27s ||     17240 ko |   +5.60% |         +2.30%
 0m04.59s |  623844 ko | algebra/ring_quotient.vo         |  0m04.40s |  613896 ko || +0m00.19s ||      9948 ko |   +4.31% |         +1.62%
 0m04.45s |  586844 ko | solvable/gseries.vo              |  0m04.33s |  578484 ko || +0m00.12s ||      8360 ko |   +2.77% |         +1.44%
 0m04.43s |  554528 ko | ssreflect/fintype.vo             |  0m04.43s |  554264 ko || +0m00.00s ||       264 ko |   +0.00% |         +0.04%
 0m04.38s |  620764 ko | algebra/countalg.vo              |  0m04.15s |  605940 ko || +0m00.23s ||     14824 ko |   +5.54% |         +2.44%
 0m04.34s |  519368 ko | fingroup/quotient.vo             |  0m04.33s |  519240 ko || +0m00.01s ||       128 ko |   +0.23% |         +0.02%
 0m04.34s |  589452 ko | solvable/sylow.vo                |  0m04.28s |  582784 ko || +0m00.06s ||      6668 ko |   +1.40% |         +1.14%
 0m04.07s |  508984 ko | ssreflect/prime.vo               |  0m03.98s |  508568 ko || +0m00.09s ||       416 ko |   +2.26% |         +0.08%
 0m03.80s |  589292 ko | solvable/nilpotent.vo            |  0m03.68s |  580500 ko || +0m00.12s ||      8792 ko |   +3.26% |         +1.51%
 0m03.78s |  836404 ko | all/all.vo                       |  0m03.59s |  809032 ko || +0m00.19s ||     27372 ko |   +5.29% |         +3.38%
 0m03.25s |  495360 ko | ssreflect/path.vo                |  0m03.23s |  494996 ko || +0m00.02s ||       364 ko |   +0.61% |         +0.07%
 0m03.23s |  591196 ko | algebra/fraction.vo              |  0m03.00s |  582112 ko || +0m00.23s ||      9084 ko |   +7.66% |         +1.56%
 0m02.84s |  615972 ko | algebra/zmodp.vo                 |  0m02.69s |  617340 ko || +0m00.15s ||     -1368 ko |   +5.57% |         -0.22%
 0m02.64s |  504828 ko | fingroup/automorphism.vo         |  0m02.63s |  504312 ko || +0m00.01s ||       516 ko |   +0.38% |         +0.10%
 0m02.61s |  780704 ko | character/all_character.vo       |  0m02.42s |  761616 ko || +0m00.19s ||     19088 ko |   +7.85% |         +2.50%
 0m02.61s |  504508 ko | ssreflect/ssrnat.vo              |  0m02.64s |  502668 ko || -0m00.03s ||      1840 ko |   -1.13% |         +0.36%
 0m02.53s |  517248 ko | fingroup/perm.vo                 |  0m02.52s |  517228 ko || +0m00.01s ||        20 ko |   +0.39% |         +0.00%
 0m02.51s |  726608 ko | algebra/all_algebra.vo           |  0m02.37s |  702876 ko || +0m00.14s ||     23732 ko |   +5.90% |         +3.37%
 0m02.51s |  763868 ko | field/all_field.vo               |  0m02.32s |  747076 ko || +0m00.19s ||     16792 ko |   +8.18% |         +2.24%
 0m02.30s |  588440 ko | solvable/primitive_action.vo     |  0m02.22s |  581292 ko || +0m00.08s ||      7148 ko |   +3.60% |         +1.22%
 0m02.29s |  513044 ko | solvable/gfunctor.vo             |  0m02.27s |  512328 ko || +0m00.02s ||       716 ko |   +0.88% |         +0.13%
 0m02.28s |  494572 ko | ssreflect/fingraph.vo            |  0m02.25s |  491952 ko || +0m00.03s ||      2620 ko |   +1.33% |         +0.53%
 0m02.19s |  507060 ko | ssreflect/binomial.vo            |  0m02.16s |  507128 ko || +0m00.03s ||       -68 ko |   +1.38% |         -0.01%
 0m02.05s |  676264 ko | solvable/all_solvable.vo         |  0m01.98s |  643760 ko || +0m00.07s ||     32504 ko |   +3.53% |         +5.04%
 0m02.04s |  515548 ko | ssreflect/choice.vo              |  0m02.03s |  518900 ko || +0m00.01s ||     -3352 ko |   +0.49% |         -0.64%
 0m01.83s |  489068 ko | ssreflect/div.vo                 |  0m01.83s |  488624 ko || +0m00.00s ||       444 ko |   +0.00% |         +0.09%
 0m01.57s |  512788 ko | solvable/commutator.vo           |  0m01.58s |  512320 ko || -0m00.01s ||       468 ko |   -0.63% |         +0.09%
 0m01.42s |  498756 ko | ssreflect/finfun.vo              |  0m01.42s |  498688 ko || +0m00.00s ||        68 ko |   +0.00% |         +0.01%
 0m01.41s |  568176 ko | ssreflect/all_ssreflect.vo       |  0m01.44s |  568484 ko || -0m00.03s ||      -308 ko |   -2.08% |         -0.05%
 0m01.41s |  493016 ko | ssreflect/eqtype.vo              |  0m01.42s |  492984 ko || -0m00.01s ||        32 ko |   -0.70% |         +0.00%
 0m01.41s |  501820 ko | ssreflect/tuple.vo               |  0m01.38s |  501656 ko || +0m00.03s ||       164 ko |   +2.17% |         +0.03%
 0m01.32s |  502196 ko | ssreflect/generic_quotient.vo    |  0m01.34s |  501876 ko || -0m00.02s ||       320 ko |   -1.49% |         +0.06%
 0m00.77s |  501128 ko | fingroup/presentation.vo         |  0m00.79s |  500640 ko || -0m00.02s ||       488 ko |   -2.53% |         +0.09%
 0m00.54s |  442748 ko | ssreflect/ssrAC.vo               |  0m00.54s |  443164 ko || +0m00.00s ||      -416 ko |   +0.00% |         -0.09%
 0m00.44s |  343436 ko | fingroup/all_fingroup.vo         |  0m00.45s |  341980 ko || -0m00.01s ||      1456 ko |   -2.22% |         +0.42%
 0m00.12s |  173960 ko | ssreflect/ssrbool.vo             |  0m00.13s |  174016 ko || -0m00.01s ||       -56 ko |   -7.69% |         -0.03%
 0m00.10s |  145148 ko | ssreflect/ssrfun.vo              |  0m00.10s |  146096 ko || +0m00.00s ||      -948 ko |   +0.00% |         -0.64%
 0m00.08s |  122368 ko | ssreflect/ssreflect.vo           |  0m00.07s |  122112 ko || +0m00.01s ||       256 ko |  +14.28% |         +0.20%
 0m00.07s |  109072 ko | ssreflect/ssrnotations.vo        |  0m00.05s |  108544 ko || +0m00.02s ||       528 ko |  +40.00% |         +0.48%
 0m00.06s |  104884 ko | ssreflect/ssrmatching.vo         |  0m00.05s |  105604 ko || +0m00.01s ||      -720 ko |  +19.99% |         -0.68%
```
w/o workaround https://github.com/math-comp/math-comp/compare/1a734557..9ebda212
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||     Change || Change (mem) |  % Change | % Change (mem)
---------------------------------------------------------------------------------------------------------------------------------------------
33m28.80s | 1756512 ko | Total Time / Peak Mem            | 15m36.20s | 1744088 ko || +17m52.60s ||     12424 ko |  +114.56% |         +0.71%
---------------------------------------------------------------------------------------------------------------------------------------------
12m57.65s | 1495872 ko | character/mxrepresentation.vo    |  0m33.81s |  971424 ko || +12m23.84s ||    524448 ko | +2200.05% |        +53.98%
 2m35.62s | 1120316 ko | algebra/vector.vo                |  0m10.71s |  765172 ko ||  +2m24.91s ||    355144 ko | +1353.03% |        +46.41%
 2m00.75s | 1118496 ko | field/fieldext.vo                |  0m15.35s |  859440 ko ||  +1m45.40s ||    259056 ko |  +686.64% |        +30.14%
 0m53.65s |  881368 ko | algebra/mxpoly.vo                |  0m22.36s |  801492 ko ||  +0m31.29s ||     79876 ko |  +139.93% |         +9.96%
 0m47.35s | 1383372 ko | algebra/ssralg.vo                |  0m38.87s | 1270704 ko ||  +0m08.48s ||    112668 ko |   +21.81% |         +8.86%
 0m21.29s |  815124 ko | algebra/mxalgebra.vo             |  0m13.54s |  784608 ko ||  +0m07.75s ||     30516 ko |   +57.23% |         +3.88%
 0m18.14s |  772640 ko | field/separable.vo               |  0m11.70s |  725532 ko ||  +0m06.44s ||     47108 ko |   +55.04% |         +6.49%
 0m25.20s |  912400 ko | field/galois.vo                  |  0m21.35s |  865128 ko ||  +0m03.85s ||     47272 ko |   +18.03% |         +5.46%
 0m34.31s | 1304628 ko | field/algebraics_fundamentals.vo |  0m31.92s | 1221304 ko ||  +0m02.39s ||     83324 ko |    +7.48% |         +6.82%
 0m25.98s |  983244 ko | character/character.vo           |  0m23.56s |  956432 ko ||  +0m02.42s ||     26812 ko |   +10.27% |         +2.80%
 2m17.82s | 1756512 ko | ssreflect/order.vo               |  2m16.59s | 1744088 ko ||  +0m01.23s ||     12424 ko |    +0.90% |         +0.71%
 0m12.67s |  732700 ko | algebra/finalg.vo                |  0m11.53s |  715592 ko ||  +0m01.14s ||     17108 ko |    +9.88% |         +2.39%
 0m12.01s |  761152 ko | character/mxabelem.vo            |  0m10.82s |  719636 ko ||  +0m01.19s ||     41516 ko |   +10.99% |         +5.76%
 0m29.89s |  933648 ko | solvable/extremal.vo             |  0m29.92s |  911036 ko ||  -0m00.03s ||     22612 ko |    -0.10% |         +2.48%
 0m28.93s |  965612 ko | algebra/ssrnum.vo                |  0m28.40s |  968416 ko ||  +0m00.53s ||     -2804 ko |    +1.86% |         -0.28%
 0m28.53s | 1159676 ko | algebra/matrix.vo                |  0m27.83s | 1126324 ko ||  +0m00.70s ||     33352 ko |    +2.51% |         +2.96%
 0m20.27s | 1010040 ko | character/classfun.vo            |  0m19.94s |  997408 ko ||  +0m00.33s ||     12632 ko |    +1.65% |         +1.26%
 0m19.14s |  817832 ko | solvable/extraspecial.vo         |  0m18.91s |  803052 ko ||  +0m00.23s ||     14780 ko |    +1.21% |         +1.84%
 0m16.91s |  878376 ko | character/inertia.vo             |  0m16.70s |  869732 ko ||  +0m00.21s ||      8644 ko |    +1.25% |         +0.99%
 0m16.10s |  698620 ko | solvable/burnside_app.vo         |  0m16.06s |  690700 ko ||  +0m00.04s ||      7920 ko |    +0.24% |         +1.14%
 0m15.56s |  944612 ko | field/finfield.vo                |  0m14.65s |  892852 ko ||  +0m00.91s ||     51760 ko |    +6.21% |         +5.79%
 0m14.07s |  735276 ko | algebra/poly.vo                  |  0m13.61s |  729472 ko ||  +0m00.46s ||      5804 ko |    +3.37% |         +0.79%
 0m13.86s |  879768 ko | field/closed_field.vo            |  0m13.49s |  845172 ko ||  +0m00.37s ||     34596 ko |    +2.74% |         +4.09%
 0m13.05s |  862520 ko | character/integral_char.vo       |  0m12.74s |  854288 ko ||  +0m00.31s ||      8232 ko |    +2.43% |         +0.96%
 0m12.72s |  636924 ko | algebra/polydiv.vo               |  0m12.10s |  623400 ko ||  +0m00.62s ||     13524 ko |    +5.12% |         +2.16%
 0m12.58s |  881476 ko | field/algC.vo                    |  0m12.18s |  860856 ko ||  +0m00.40s ||     20620 ko |    +3.28% |         +2.39%
 0m12.57s |  846436 ko | field/algnum.vo                  |  0m12.07s |  830556 ko ||  +0m00.50s ||     15880 ko |    +4.14% |         +1.91%
 0m12.25s |  653232 ko | solvable/maximal.vo              |  0m12.03s |  640188 ko ||  +0m00.22s ||     13044 ko |    +1.82% |         +2.03%
 0m11.60s |  596980 ko | fingroup/gproduct.vo             |  0m11.66s |  597008 ko ||  -0m00.06s ||       -28 ko |    -0.51% |         -0.00%
 0m11.51s |  634732 ko | solvable/hall.vo                 |  0m11.51s |  621604 ko ||  +0m00.00s ||     13128 ko |    +0.00% |         +2.11%
 0m11.34s |  853988 ko | character/vcharacter.vo          |  0m10.98s |  831348 ko ||  +0m00.36s ||     22640 ko |    +3.27% |         +2.72%
 0m11.04s |  800576 ko | algebra/interval.vo              |  0m10.76s |  776356 ko ||  +0m00.28s ||     24220 ko |    +2.60% |         +3.11%
 0m10.80s |  795404 ko | algebra/archimedean.vo           |  0m10.43s |  774144 ko ||  +0m00.37s ||     21260 ko |    +3.54% |         +2.74%
 0m10.35s |  647000 ko | solvable/abelian.vo              |  0m10.22s |  634116 ko ||  +0m00.13s ||     12884 ko |    +1.27% |         +2.03%
 0m09.28s |  772320 ko | algebra/intdiv.vo                |  0m08.96s |  758120 ko ||  +0m00.32s ||     14200 ko |    +3.57% |         +1.87%
 0m09.14s |  757932 ko | field/falgebra.vo                |  0m08.56s |  725160 ko ||  +0m00.58s ||     32772 ko |    +6.77% |         +4.51%
 0m09.11s |  568508 ko | fingroup/action.vo               |  0m09.02s |  566388 ko ||  +0m00.09s ||      2120 ko |    +0.99% |         +0.37%
 0m08.76s |  751648 ko | algebra/ssrint.vo                |  0m08.46s |  733316 ko ||  +0m00.30s ||     18332 ko |    +3.54% |         +2.49%
 0m08.76s |  831744 ko | field/qfpoly.vo                  |  0m08.32s |  803484 ko ||  +0m00.44s ||     28260 ko |    +5.28% |         +3.51%
 0m08.71s |  731608 ko | algebra/rat.vo                   |  0m08.52s |  725016 ko ||  +0m00.19s ||      6592 ko |    +2.23% |         +0.90%
 0m08.39s |  755988 ko | algebra/qpoly.vo                 |  0m07.90s |  741820 ko ||  +0m00.49s ||     14168 ko |    +6.20% |         +1.90%
 0m07.37s |  566624 ko | ssreflect/seq.vo                 |  0m07.37s |  566444 ko ||  +0m00.00s ||       180 ko |    +0.00% |         +0.03%
 0m06.71s |  574884 ko | fingroup/fingroup.vo             |  0m06.79s |  574808 ko ||  -0m00.08s ||        76 ko |    -1.17% |         +0.01%
 0m06.39s |  602480 ko | solvable/alt.vo                  |  0m06.28s |  592568 ko ||  +0m00.11s ||      9912 ko |    +1.75% |         +1.67%
 0m06.35s |  593480 ko | solvable/center.vo               |  0m06.19s |  580848 ko ||  +0m00.16s ||     12632 ko |    +2.58% |         +2.17%
 0m06.16s |  531848 ko | ssreflect/finset.vo              |  0m06.11s |  529684 ko ||  +0m00.05s ||      2164 ko |    +0.81% |         +0.40%
 0m05.93s |  700424 ko | algebra/polyXY.vo                |  0m05.68s |  684300 ko ||  +0m00.25s ||     16124 ko |    +4.40% |         +2.35%
 0m05.67s |  589256 ko | solvable/jordanholder.vo         |  0m05.62s |  580324 ko ||  +0m00.05s ||      8932 ko |    +0.88% |         +1.53%
 0m05.63s |  596144 ko | solvable/pgroup.vo               |  0m05.54s |  585288 ko ||  +0m00.09s ||     10856 ko |    +1.62% |         +1.85%
 0m05.60s |  613780 ko | solvable/finmodule.vo            |  0m05.50s |  615272 ko ||  +0m00.10s ||     -1492 ko |    +1.81% |         -0.24%
 0m05.58s |  574604 ko | ssreflect/bigop.vo               |  0m05.51s |  572880 ko ||  +0m00.07s ||      1724 ko |    +1.27% |         +0.30%
 0m05.57s |  521072 ko | fingroup/morphism.vo             |  0m05.58s |  520736 ko ||  -0m00.01s ||       336 ko |    -0.17% |         +0.06%
 0m05.42s |  593872 ko | solvable/frobenius.vo            |  0m05.38s |  589140 ko ||  +0m00.04s ||      4732 ko |    +0.74% |         +0.80%
 0m05.16s |  601752 ko | solvable/cyclic.vo               |  0m04.99s |  585976 ko ||  +0m00.17s ||     15776 ko |    +3.40% |         +2.69%
 0m05.08s |  770208 ko | field/cyclotomic.vo              |  0m04.84s |  748988 ko ||  +0m00.24s ||     21220 ko |    +4.95% |         +2.83%
 0m04.59s |  621936 ko | algebra/ring_quotient.vo         |  0m04.39s |  612312 ko ||  +0m00.20s ||      9624 ko |    +4.55% |         +1.57%
 0m04.47s |  554364 ko | ssreflect/fintype.vo             |  0m04.43s |  557820 ko ||  +0m00.04s ||     -3456 ko |    +0.90% |         -0.61%
 0m04.46s |  586932 ko | solvable/gseries.vo              |  0m04.36s |  578440 ko ||  +0m00.10s ||      8492 ko |    +2.29% |         +1.46%
 0m04.40s |  617124 ko | algebra/countalg.vo              |  0m04.15s |  605968 ko ||  +0m00.25s ||     11156 ko |    +6.02% |         +1.84%
 0m04.37s |  589244 ko | solvable/sylow.vo                |  0m04.26s |  583092 ko ||  +0m00.11s ||      6152 ko |    +2.58% |         +1.05%
 0m04.33s |  519128 ko | fingroup/quotient.vo             |  0m04.33s |  519280 ko ||  +0m00.00s ||      -152 ko |    +0.00% |         -0.02%
 0m04.02s |  509108 ko | ssreflect/prime.vo               |  0m04.06s |  508608 ko ||  -0m00.04s ||       500 ko |    -0.98% |         +0.09%
 0m03.79s |  836196 ko | all/all.vo                       |  0m03.67s |  813216 ko ||  +0m00.12s ||     22980 ko |    +3.26% |         +2.82%
 0m03.75s |  589000 ko | solvable/nilpotent.vo            |  0m03.70s |  580672 ko ||  +0m00.05s ||      8328 ko |    +1.35% |         +1.43%
 0m03.21s |  495328 ko | ssreflect/path.vo                |  0m03.28s |  495064 ko ||  -0m00.07s ||       264 ko |    -2.13% |         +0.05%
 0m03.20s |  591296 ko | algebra/fraction.vo              |  0m03.01s |  582072 ko ||  +0m00.19s ||      9224 ko |    +6.31% |         +1.58%
 0m02.82s |  616144 ko | algebra/zmodp.vo                 |  0m02.67s |  617224 ko ||  +0m00.15s ||     -1080 ko |    +5.61% |         -0.17%
 0m02.66s |  502628 ko | ssreflect/ssrnat.vo              |  0m02.63s |  502436 ko ||  +0m00.03s ||       192 ko |    +1.14% |         +0.03%
 0m02.64s |  504580 ko | fingroup/automorphism.vo         |  0m02.65s |  504152 ko ||  -0m00.01s ||       428 ko |    -0.37% |         +0.08%
 0m02.63s |  782376 ko | character/all_character.vo       |  0m02.42s |  761528 ko ||  +0m00.21s ||     20848 ko |    +8.67% |         +2.73%
 0m02.51s |  517176 ko | fingroup/perm.vo                 |  0m02.50s |  517080 ko ||  +0m00.01s ||        96 ko |    +0.39% |         +0.01%
 0m02.50s |  726540 ko | algebra/all_algebra.vo           |  0m02.38s |  703060 ko ||  +0m00.12s ||     23480 ko |    +5.04% |         +3.33%
 0m02.50s |  764120 ko | field/all_field.vo               |  0m02.33s |  746628 ko ||  +0m00.17s ||     17492 ko |    +7.29% |         +2.34%
 0m02.32s |  588480 ko | solvable/primitive_action.vo     |  0m02.20s |  581448 ko ||  +0m00.12s ||      7032 ko |    +5.45% |         +1.20%
 0m02.28s |  512880 ko | solvable/gfunctor.vo             |  0m02.22s |  512364 ko ||  +0m00.06s ||       516 ko |    +2.70% |         +0.10%
 0m02.25s |  494788 ko | ssreflect/fingraph.vo            |  0m02.27s |  492216 ko ||  -0m00.02s ||      2572 ko |    -0.88% |         +0.52%
 0m02.16s |  507204 ko | ssreflect/binomial.vo            |  0m02.19s |  507156 ko ||  -0m00.03s ||        48 ko |    -1.36% |         +0.00%
 0m02.06s |  676124 ko | solvable/all_solvable.vo         |  0m01.97s |  643492 ko ||  +0m00.09s ||     32632 ko |    +4.56% |         +5.07%
 0m02.04s |  517400 ko | ssreflect/choice.vo              |  0m02.06s |  515676 ko ||  -0m00.02s ||      1724 ko |    -0.97% |         +0.33%
 0m01.80s |  489096 ko | ssreflect/div.vo                 |  0m01.83s |  490900 ko ||  -0m00.03s ||     -1804 ko |    -1.63% |         -0.36%
 0m01.60s |  512800 ko | solvable/commutator.vo           |  0m01.62s |  512468 ko ||  -0m00.02s ||       332 ko |    -1.23% |         +0.06%
 0m01.43s |  568560 ko | ssreflect/all_ssreflect.vo       |  0m01.41s |  568420 ko ||  +0m00.02s ||       140 ko |    +1.41% |         +0.02%
 0m01.43s |  499128 ko | ssreflect/finfun.vo              |  0m01.41s |  499040 ko ||  +0m00.02s ||        88 ko |    +1.41% |         +0.01%
 0m01.42s |  493016 ko | ssreflect/eqtype.vo              |  0m01.44s |  492992 ko ||  -0m00.02s ||        24 ko |    -1.38% |         +0.00%
 0m01.39s |  501708 ko | ssreflect/tuple.vo               |  0m01.39s |  501824 ko ||  +0m00.00s ||      -116 ko |    +0.00% |         -0.02%
 0m01.32s |  501988 ko | ssreflect/generic_quotient.vo    |  0m01.33s |  504044 ko ||  -0m00.01s ||     -2056 ko |    -0.75% |         -0.40%
 0m00.77s |  501040 ko | fingroup/presentation.vo         |  0m00.77s |  500728 ko ||  +0m00.00s ||       312 ko |    +0.00% |         +0.06%
 0m00.54s |  443732 ko | ssreflect/ssrAC.vo               |  0m00.57s |  442712 ko ||  -0m00.03s ||      1020 ko |    -5.26% |         +0.23%
 0m00.44s |  343036 ko | fingroup/all_fingroup.vo         |  0m00.46s |  341652 ko ||  -0m00.02s ||      1384 ko |    -4.34% |         +0.40%
 0m00.13s |  172720 ko | ssreflect/ssrbool.vo             |  0m00.13s |  173320 ko ||  +0m00.00s ||      -600 ko |    +0.00% |         -0.34%
 0m00.10s |  146172 ko | ssreflect/ssrfun.vo              |  0m00.09s |  144308 ko ||  +0m00.01s ||      1864 ko |   +11.11% |         +1.29%
 0m00.07s |  104732 ko | ssreflect/ssrmatching.vo         |  0m00.06s |  105068 ko ||  +0m00.01s ||      -336 ko |   +16.66% |         -0.31%
 0m00.06s |  122868 ko | ssreflect/ssreflect.vo           |  0m00.08s |  123228 ko ||  -0m00.02s ||      -360 ko |   -25.00% |         -0.29%
 0m00.06s |  111528 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  108828 ko ||  +0m00.00s ||      2700 ko |    +0.00% |         +2.48%
```

**Comment by Tragicus** [comment]
I rebenched this with https://github.com/coq/coq/pull/19611, commit `0aa557bc` (i.e. w/o the performance patch) induces a 13% slowdown on top of master and <2% slowdown on top of the PR.

**Comment by pi8027** [comment]
@Tragicus That's excellent news. Thanks a lot!

To keep the slowdown acceptable for released versions of Coq, shall we avoid `GRing.isLinear` for the moment anyway? We probably don't need the other part of the performance patch.

**Comment by Tragicus** [comment]
Of course I had missed the dedicated branch, on which the slowdowns are 17% and 3% respectively.

**Comment by pi8027** [comment]
New bench with coq/coq#19611 (the exact version of Coq I'm using is [`3f251ce`](https://github.com/coq/coq/commit/3f251ce83584c991c8cf4ca33383994ed638a3dc)), without the workarounds on the MC side (https://github.com/math-comp/math-comp/compare/0240d6c7..cd4b5842):
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
15m52.81s | 1761140 ko | Total Time / Peak Mem            | 15m09.57s | 1755684 ko || +0m43.24s ||      5456 ko |   +4.75% |         +0.31%
-------------------------------------------------------------------------------------------------------------------------------------------
 0m47.84s | 1320444 ko | algebra/ssralg.vo                |  0m39.08s | 1298300 ko || +0m08.76s ||     22144 ko |  +22.41% |         +1.70%
 0m36.88s |  978232 ko | character/mxrepresentation.vo    |  0m29.99s |  935068 ko || +0m06.89s ||     43164 ko |  +22.97% |         +4.61%
 0m18.45s |  898884 ko | field/fieldext.vo                |  0m14.99s |  835172 ko || +0m03.46s ||     63712 ko |  +23.08% |         +7.62%
 0m13.42s |  787800 ko | algebra/vector.vo                |  0m10.70s |  770664 ko || +0m02.72s ||     17136 ko |  +25.42% |         +2.22%
 0m33.90s | 1231020 ko | field/algebraics_fundamentals.vo |  0m32.06s | 1215900 ko || +0m01.84s ||     15120 ko |   +5.73% |         +1.24%
 0m17.38s |  789304 ko | algebra/mxpoly.vo                |  0m16.30s |  766148 ko || +0m01.08s ||     23156 ko |   +6.62% |         +3.02%
 0m15.47s |  939100 ko | field/finfield.vo                |  0m14.16s |  883272 ko || +0m01.31s ||     55828 ko |   +9.25% |         +6.32%
 0m12.54s |  728532 ko | algebra/finalg.vo                |  0m11.49s |  696948 ko || +0m01.05s ||     31584 ko |   +9.13% |         +4.53%
 1m49.92s | 1761140 ko | ssreflect/order.vo               |  1m49.99s | 1755684 ko || -0m00.07s ||      5456 ko |   -0.06% |         +0.31%
 0m31.00s |  934192 ko | solvable/extremal.vo             |  0m30.85s |  915016 ko || +0m00.15s ||     19176 ko |   +0.48% |         +2.09%
 0m28.58s |  928904 ko | algebra/ssrnum.vo                |  0m27.95s |  931648 ko || +0m00.63s ||     -2744 ko |   +2.25% |         -0.29%
 0m26.78s | 1048772 ko | algebra/matrix.vo                |  0m26.17s | 1027976 ko || +0m00.61s ||     20796 ko |   +2.33% |         +2.02%
 0m21.10s |  950340 ko | character/character.vo           |  0m20.47s |  939304 ko || +0m00.63s ||     11036 ko |   +3.07% |         +1.17%
 0m21.05s |  884772 ko | field/galois.vo                  |  0m20.44s |  861328 ko || +0m00.61s ||     23444 ko |   +2.98% |         +2.72%
 0m19.60s |  958828 ko | character/classfun.vo            |  0m18.98s |  935516 ko || +0m00.62s ||     23312 ko |   +3.26% |         +2.49%
 0m18.97s |  830524 ko | solvable/extraspecial.vo         |  0m18.70s |  807296 ko || +0m00.27s ||     23228 ko |   +1.44% |         +2.87%
 0m17.02s |  880720 ko | character/inertia.vo             |  0m16.80s |  866024 ko || +0m00.22s ||     14696 ko |   +1.30% |         +1.69%
 0m16.28s |  699760 ko | solvable/burnside_app.vo         |  0m16.19s |  695444 ko || +0m00.09s ||      4316 ko |   +0.55% |         +0.62%
 0m13.68s |  791056 ko | algebra/mxalgebra.vo             |  0m13.11s |  767736 ko || +0m00.57s ||     23320 ko |   +4.34% |         +3.03%
 0m13.32s |  859332 ko | field/closed_field.vo            |  0m12.92s |  830780 ko || +0m00.40s ||     28552 ko |   +3.09% |         +3.43%
 0m12.63s |  642120 ko | algebra/polydiv.vo               |  0m12.05s |  632220 ko || +0m00.58s ||      9900 ko |   +4.81% |         +1.56%
 0m12.51s |  852248 ko | character/integral_char.vo       |  0m12.08s |  823148 ko || +0m00.43s ||     29100 ko |   +3.55% |         +3.53%
 0m12.38s |  849360 ko | field/algnum.vo                  |  0m12.03s |  826288 ko || +0m00.35s ||     23072 ko |   +2.90% |         +2.79%
 0m12.09s |  859148 ko | field/algC.vo                    |  0m11.86s |  841348 ko || +0m00.23s ||     17800 ko |   +1.93% |         +2.11%
 0m11.88s |  737264 ko | algebra/poly.vo                  |  0m11.31s |  703472 ko || +0m00.57s ||     33792 ko |   +5.03% |         +4.80%
 0m11.54s |  601264 ko | fingroup/gproduct.vo             |  0m11.53s |  599744 ko || +0m00.01s ||      1520 ko |   +0.08% |         +0.25%
 0m11.38s |  845980 ko | character/vcharacter.vo          |  0m11.00s |  830936 ko || +0m00.38s ||     15044 ko |   +3.45% |         +1.81%
 0m11.32s |  783008 ko | algebra/interval.vo              |  0m11.09s |  775492 ko || +0m00.23s ||      7516 ko |   +2.07% |         +0.96%
 0m11.05s |  806060 ko | algebra/sesquilinear.vo          |  0m10.46s |  790280 ko || +0m00.59s ||     15780 ko |   +5.64% |         +1.99%
 0m10.85s |  654524 ko | solvable/maximal.vo              |  0m10.96s |  646808 ko || -0m00.11s ||      7716 ko |   -1.00% |         +1.19%
 0m10.75s |  784300 ko | algebra/archimedean.vo           |  0m10.44s |  768284 ko || +0m00.31s ||     16016 ko |   +2.96% |         +2.08%
 0m10.53s |  747748 ko | character/mxabelem.vo            |  0m10.02s |  732088 ko || +0m00.51s ||     15660 ko |   +5.08% |         +2.13%
 0m10.43s |  751036 ko | field/separable.vo               |  0m09.75s |  723828 ko || +0m00.68s ||     27208 ko |   +6.97% |         +3.75%
 0m10.25s |  771412 ko | algebra/spectral.vo              |  0m10.12s |  754056 ko || +0m00.13s ||     17356 ko |   +1.28% |         +2.30%
 0m09.54s |  784448 ko | algebra/intdiv.vo                |  0m09.29s |  763688 ko || +0m00.25s ||     20760 ko |   +2.69% |         +2.71%
 0m09.54s |  630028 ko | solvable/hall.vo                 |  0m09.52s |  618552 ko || +0m00.02s ||     11476 ko |   +0.21% |         +1.85%
 0m09.47s |  647308 ko | solvable/abelian.vo              |  0m09.35s |  634764 ko || +0m00.12s ||     12544 ko |   +1.28% |         +1.97%
 0m09.15s |  765208 ko | field/falgebra.vo                |  0m08.75s |  721448 ko || +0m00.40s ||     43760 ko |   +4.57% |         +6.06%
 0m08.95s |  571464 ko | fingroup/action.vo               |  0m08.92s |  571020 ko || +0m00.03s ||       444 ko |   +0.33% |         +0.07%
 0m08.93s |  741924 ko | algebra/rat.vo                   |  0m08.61s |  724708 ko || +0m00.32s ||     17216 ko |   +3.71% |         +2.37%
 0m08.90s |  827652 ko | field/qfpoly.vo                  |  0m08.45s |  805056 ko || +0m00.45s ||     22596 ko |   +5.32% |         +2.80%
 0m08.87s |  735140 ko | algebra/ssrint.vo                |  0m08.70s |  735120 ko || +0m00.17s ||        20 ko |   +1.95% |         +0.00%
 0m08.52s |  755072 ko | algebra/qpoly.vo                 |  0m07.98s |  730088 ko || +0m00.54s ||     24984 ko |   +6.76% |         +3.42%
 0m08.08s |  723684 ko | algebra/mxred.vo                 |  0m08.00s |  709388 ko || +0m00.08s ||     14296 ko |   +1.00% |         +2.01%
 0m07.52s |  568324 ko | ssreflect/seq.vo                 |  0m07.76s |  567928 ko || -0m00.24s ||       396 ko |   -3.09% |         +0.06%
 0m06.80s |  578012 ko | fingroup/fingroup.vo             |  0m06.81s |  576396 ko || -0m00.01s ||      1616 ko |   -0.14% |         +0.28%
 0m06.21s |  703360 ko | algebra/polyXY.vo                |  0m05.90s |  686508 ko || +0m00.31s ||     16852 ko |   +5.25% |         +2.45%
 0m06.21s |  531364 ko | ssreflect/finset.vo              |  0m06.15s |  529132 ko || +0m00.06s ||      2232 ko |   +0.97% |         +0.42%
 0m05.81s |  597464 ko | solvable/center.vo               |  0m05.71s |  584192 ko || +0m00.10s ||     13272 ko |   +1.75% |         +2.27%
 0m05.67s |  570160 ko | ssreflect/bigop.vo               |  0m05.60s |  568276 ko || +0m00.07s ||      1884 ko |   +1.25% |         +0.33%
 0m05.61s |  601620 ko | solvable/pgroup.vo               |  0m05.50s |  592476 ko || +0m00.11s ||      9144 ko |   +2.00% |         +1.54%
 0m05.60s |  617636 ko | solvable/finmodule.vo            |  0m05.41s |  600652 ko || +0m00.19s ||     16984 ko |   +3.51% |         +2.82%
 0m05.54s |  523396 ko | fingroup/morphism.vo             |  0m05.54s |  523456 ko || +0m00.00s ||       -60 ko |   +0.00% |         -0.01%
 0m05.48s |  600176 ko | solvable/frobenius.vo            |  0m05.35s |  588236 ko || +0m00.13s ||     11940 ko |   +2.42% |         +2.02%
 0m05.39s |  604840 ko | solvable/alt.vo                  |  0m05.33s |  597152 ko || +0m00.06s ||      7688 ko |   +1.12% |         +1.28%
 0m05.35s |  777220 ko | field/cyclotomic.vo              |  0m05.12s |  759284 ko || +0m00.23s ||     17936 ko |   +4.49% |         +2.36%
 0m04.75s |  592216 ko | solvable/jordanholder.vo         |  0m04.62s |  588764 ko || +0m00.13s ||      3452 ko |   +2.81% |         +0.58%
 0m04.59s |  623680 ko | algebra/ring_quotient.vo         |  0m04.36s |  615200 ko || +0m00.23s ||      8480 ko |   +5.27% |         +1.37%
 0m04.58s |  600628 ko | solvable/cyclic.vo               |  0m04.46s |  588232 ko || +0m00.12s ||     12396 ko |   +2.69% |         +2.10%
 0m04.48s |  555984 ko | ssreflect/fintype.vo             |  0m04.47s |  555900 ko || +0m00.01s ||        84 ko |   +0.22% |         +0.01%
 0m04.47s |  618856 ko | algebra/countalg.vo              |  0m04.21s |  604504 ko || +0m00.26s ||     14352 ko |   +6.17% |         +2.37%
 0m04.47s |  593928 ko | solvable/sylow.vo                |  0m04.35s |  584232 ko || +0m00.12s ||      9696 ko |   +2.75% |         +1.65%
 0m04.30s |  522544 ko | fingroup/quotient.vo             |  0m04.33s |  520740 ko || -0m00.03s ||      1804 ko |   -0.69% |         +0.34%
 0m04.15s |  845140 ko | all/all.vo                       |  0m03.92s |  832156 ko || +0m00.23s ||     12984 ko |   +5.86% |         +1.56%
 0m04.10s |  515968 ko | ssreflect/prime.vo               |  0m04.08s |  515468 ko || +0m00.02s ||       500 ko |   +0.49% |         +0.09%
 0m03.83s |  594904 ko | solvable/nilpotent.vo            |  0m03.66s |  583300 ko || +0m00.17s ||     11604 ko |   +4.64% |         +1.98%
 0m03.48s |  593020 ko | solvable/gseries.vo              |  0m03.29s |  581440 ko || +0m00.19s ||     11580 ko |   +5.77% |         +1.99%
 0m03.24s |  501840 ko | ssreflect/path.vo                |  0m03.25s |  497384 ko || -0m00.01s ||      4456 ko |   -0.30% |         +0.89%
 0m03.23s |  594936 ko | algebra/fraction.vo              |  0m03.02s |  582720 ko || +0m00.21s ||     12216 ko |   +6.95% |         +2.09%
 0m03.23s |  790164 ko | character/all_character.vo       |  0m02.75s |  771556 ko || +0m00.48s ||     18608 ko |  +17.45% |         +2.41%
 0m02.84s |  621676 ko | algebra/zmodp.vo                 |  0m02.66s |  600508 ko || +0m00.18s ||     21168 ko |   +6.76% |         +3.52%
 0m02.84s |  770900 ko | field/all_field.vo               |  0m02.59s |  755180 ko || +0m00.25s ||     15720 ko |   +9.65% |         +2.08%
 0m02.83s |  741028 ko | algebra/all_algebra.vo           |  0m02.68s |  716632 ko || +0m00.15s ||     24396 ko |   +5.59% |         +3.40%
 0m02.69s |  507092 ko | ssreflect/ssrnat.vo              |  0m02.66s |  506600 ko || +0m00.03s ||       492 ko |   +1.12% |         +0.09%
 0m02.56s |  516868 ko | fingroup/perm.vo                 |  0m02.52s |  516824 ko || +0m00.04s ||        44 ko |   +1.58% |         +0.00%
 0m02.40s |  592340 ko | solvable/primitive_action.vo     |  0m02.29s |  584728 ko || +0m00.11s ||      7612 ko |   +4.80% |         +1.30%
 0m02.38s |  664260 ko | solvable/all_solvable.vo         |  0m02.10s |  656864 ko || +0m00.28s ||      7396 ko |  +13.33% |         +1.12%
 0m02.34s |  509356 ko | fingroup/automorphism.vo         |  0m02.35s |  508672 ko || -0m00.01s ||       684 ko |   -0.42% |         +0.13%
 0m02.28s |  495268 ko | ssreflect/fingraph.vo            |  0m02.28s |  494816 ko || +0m00.00s ||       452 ko |   +0.00% |         +0.09%
 0m02.20s |  508872 ko | ssreflect/binomial.vo            |  0m02.22s |  510508 ko || -0m00.02s ||     -1636 ko |   -0.90% |         -0.32%
 0m02.09s |  518704 ko | ssreflect/choice.vo              |  0m02.05s |  518244 ko || +0m00.04s ||       460 ko |   +1.95% |         +0.08%
 0m01.84s |  489864 ko | ssreflect/div.vo                 |  0m01.87s |  489216 ko || -0m00.03s ||       648 ko |   -1.60% |         +0.13%
 0m01.64s |  517424 ko | solvable/gfunctor.vo             |  0m01.60s |  518880 ko || +0m00.04s ||     -1456 ko |   +2.49% |         -0.28%
 0m01.60s |  515292 ko | solvable/commutator.vo           |  0m01.60s |  515052 ko || +0m00.00s ||       240 ko |   +0.00% |         +0.04%
 0m01.54s |  574612 ko | ssreflect/all_ssreflect.vo       |  0m01.55s |  574116 ko || -0m00.01s ||       496 ko |   -0.64% |         +0.08%
 0m01.45s |  492620 ko | ssreflect/eqtype.vo              |  0m01.47s |  492520 ko || -0m00.02s ||       100 ko |   -1.36% |         +0.02%
 0m01.43s |  500400 ko | ssreflect/finfun.vo              |  0m01.42s |  500232 ko || +0m00.01s ||       168 ko |   +0.70% |         +0.03%
 0m01.42s |  502684 ko | ssreflect/tuple.vo               |  0m01.41s |  502368 ko || +0m00.01s ||       316 ko |   +0.70% |         +0.06%
 0m01.38s |  504792 ko | ssreflect/generic_quotient.vo    |  0m01.36s |  504484 ko || +0m00.02s ||       308 ko |   +1.47% |         +0.06%
 0m00.78s |  503780 ko | fingroup/presentation.vo         |  0m00.79s |  503500 ko || -0m00.01s ||       280 ko |   -1.26% |         +0.05%
 0m00.58s |  444076 ko | ssreflect/ssrAC.vo               |  0m00.58s |  445476 ko || +0m00.00s ||     -1400 ko |   +0.00% |         -0.31%
 0m00.43s |  345300 ko | fingroup/all_fingroup.vo         |  0m00.43s |  344764 ko || +0m00.00s ||       536 ko |   +0.00% |         +0.15%
 0m00.13s |  181480 ko | ssreflect/ssrbool.vo             |  0m00.14s |  179236 ko || -0m00.01s ||      2244 ko |   -7.14% |         +1.25%
 0m00.12s |  150868 ko | ssreflect/ssrfun.vo              |  0m00.13s |  152144 ko || -0m00.01s ||     -1276 ko |   -7.69% |         -0.83%
 0m00.08s |  125456 ko | ssreflect/ssreflect.vo           |  0m00.10s |  126140 ko || -0m00.02s ||      -684 ko |  -20.00% |         -0.54%
 0m00.07s |  107700 ko | ssreflect/ssrnotations.vo        |  0m00.08s |  107312 ko || -0m00.01s ||       388 ko |  -12.49% |         +0.36%
 0m00.06s |  107412 ko | ssreflect/ssrmatching.vo         |  0m00.08s |  103620 ko || -0m00.02s ||      3792 ko |  -25.00% |         +3.65%
```
Should we wait for the next release of Coq before merging this? (I hope not.)
If not, should we temporarily keep the workarounds for the released versions of Coq?

**Comment by pi8027** [comment]
This PR is now depending on #1360.

File: algebra/qpoly.v [hunk 28]
```diff
@@ -121,7 +121,7 @@ Proof. by move=> p /=; rewrite val_insubd [_ \is a _]size_poly rVpolyK. Qed.
 Hint Resolve npoly_rV_K rVnpolyK : core.
 
 Lemma npoly_vect_axiom : Vector.axiom n npoly.
-Proof. by exists npoly_rV; [exact:linearPZ | exists rVnpoly]. Qed.
+Proof. by exists npoly_rV; [exact:linearP | exists rVnpoly]. Qed.
```
Comment (pi8027) [inline algebra/qpoly.v:124]: It seems that I accidentally changed the statement of `linearPZ`. I will fix it.

**Comment by pi8027** [comment]
@affeldt-aist IIRC, you were the one who was strongly against merging this PR last time. So, can you review this PR to confirm that your point has been addressed? Thank you in advance.

**Review by CohenCyril — APPROVED** [review]

File: mathcomp/algebra/ssralg.v (hunk 25 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: I believe that these lines should be removed, but I don't even understand what these were. I will probably open a separate issue since it is orthogonal to this PR.

**Comment by pi8027** [comment]
I added changelog entries, but I'm not very confident that they exhaustively document the changes.

**Comment by pi8027** [comment]
BTW, I'm a bit surprised to see that the compilation time of the master branch of MathComp has increased by almost 6 min (38%) since last November.

**Comment by pi8027** [comment]
I noticed that I was using Coq 8.20.1 for the benchmark above (because `opam pin add rocq-core 9.0.0` does not prevent opam from installing `coq-8.20.1` when Rocq is just pinned but not installed 😩). So I'm redoing it.

**Comment by pi8027** [comment]
This PR is now blocking too many things: #1256, #1269, #1386, and math-comp/multinomials#83 (which is a pre-pre-requisite of one of my long-term projects).

@proux01 @affeldt-aist Do you still think this PR shouldn't be merged before the release?

**Comment by CohenCyril** [comment]
I re-read this PR carefully, to me it can and should be merged ASAP. There are a few TODOs left in the code that are essentially orthogonal to this PR and should be reported as github issues after this PR is merged.

**Comment by CohenCyril** [comment]
> @proux01 @affeldt-aist Do you still think this PR shouldn't be merged before the release?

FTR I recall being the one who suggested we release first and then merge, because I thought I wanted a review from @affeldt-aist. Now,  I took a look and I think it's good to go and I think neither @proux01 nor @affeldt-aist are actually blocking this PR.

**Comment by affeldt-aist** [comment]
> This PR is now blocking too many things: #1256, #1269, #1386, and [math-comp/multinomials#83](https://github.com/math-comp/multinomials/pull/83) (which is a pre-pre-requisite of one of my long-term projects).
> 
> @proux01 @affeldt-aist Do you still think this PR shouldn't be merged before the release?

there is an interest in having semi-structures in MathComp-Analysis and performance-wise this is much better than the first versions of these additions if i remember correctly

waiting for another release is not likely to change much the situation, so I guess the sooner the better in master

**Comment by pi8027** [comment]
Thanks!

**Comment by pi8027** [comment]
> [..] performance-wise this is much better than the first versions of these additions if i remember correctly

@affeldt-aist Just in case, you can find the most recent benchmark result here: https://github.com/math-comp/math-comp/pull/1125#issuecomment-2741168617.

File: mathcomp/algebra/ssralg.v (hunk 25 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: I opened an issue: #1390

File: mathcomp/algebra/ssralg.v (hunk 27 above)
Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: I opened an issue: #1390

**Comment by affeldt-aist** [comment]
> > [..] performance-wise this is much better than the first versions of these additions if i remember correctly
> 
> @affeldt-aist Just in case, you can find the most recent benchmark result here: [#1125 (comment)](https://github.com/math-comp/math-comp/pull/1125#issuecomment-2741168617).

yes, my comment was based on those, they are convincing even for my untrained eye
